### PR TITLE
feat: add date and time functionality

### PR DESCRIPTION
**Pull request by algebraic-dev**
This PR introduces date and time functionality to the Lean 4 Std.

Breaking Changes:
- `Lean.Data.Rat` is now `Std.Internal.Rat` because it's used by the DateTime library.

### CODE REVIEW

File: src/Std/Time/Time/HourMarker.lean [hunk 1]
```diff
@@ -0,0 +1,38 @@
...
+-/
+def HourMarker.toAbsolute (marker : HourMarker) (time : Hour.Ordinal) (h₀ : time.toInt ≤ 12) : Hour.Ordinal :=
+  match marker with
+  | .am => time
+  | .pm => Bounded.LE.mk (time.toInt + 12) (And.intro (Int.add_le_add (c := 0) time.property.left (by decide)) (Int.add_le_add_right h₀ 12))
+
+/--
+Converts a 12-hour clock time to a 24-hour clock time based on the `HourMarker` without a proof.
+-/
+def HourMarker.toAbsolute! (marker : HourMarker) (time : Hour.Ordinal) : Hour.Ordinal :=
```
Comment (TwoFX) [inline src/Std/Time/Time/HourMarker.lean:35]: The `!` suffix usually means that an invalid input leads to a panic. Is there a good reason why passing an invalid time here should not panic?

File: src/Std/Time/Date/Unit/Month.lean [hunk 2]
```diff
@@ -0,0 +1,190 @@
...
+Size in days of each month if the year is not leap.
+-/
+@[inline]
+def monthSizesNonLeap : { val : Array Day.Ordinal // val.size = 12 } :=
+  ⟨#[ 31, 28, 31, 30, 31, 30, 31, 31, 30, 31, 30, 31 ], by simp⟩
+
+/--
+Gets the number of days in a month.
+-/
+def days' (leap : Bool) (month : Ordinal) : Day.Ordinal :=
```
Comment (TwoFX) [inline src/Std/Time/Date/Unit/Month.lean:119]: It would be great if we could a naming scheme for functions that are part of the public API that does not rely on `'` to disambiguate functions, since these names are very difficult to guess.

File: src/Std/Time/Time/Unit/Nanosecond.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+def ofMillisecond (nano : Millisecond.Ordinal) : Nanosecond.Ordinal :=
+  nano.mul_pos 1000000 (by decide)
+  |>.expandTop (by decide)
+
+end Ordinal
+
+/--
+`Offset` represents an offset in nanoseconds. It is defined as an `Int`.
+-/
+def Offset : Type := UnitVal (1 / 1000000000)
```
Comment (TwoFX) [inline src/Std/Time/Time/Unit/Nanosecond.lean:51]: I don't fully understand how all of the various ways to represent a timespan fit together. When are users expected to use one of the `Offset` types? When should they use `Duration`? How does `Date.Scalar` come into play here? If I have two dates, I might want to get the difference in days between them as a `Day.Offset`, or the specific amount of time between them as a `Duration`. Are both possible? I guess the latter only works if I have time zone information?

Generally, I think this is all really confusing. That is potentially fine given that time in general is very confusing. However, if we make the API very complex then we need to be really good with documentation. Ideally every docstring for one of these times should list all of the alternatives that might be a better fit for what the user is trying to achieve.

**Review by TwoFX — COMMENTED** [review]
Please add tests for the various conversion routines that catch all of the interesting cases.

It would be very nice to have a few examples of the library being used in practice to achieve some common things.

File: src/Std/Time/Time/Unit/Nanosecond.lean (hunk 3 above)
Comment (the-sofi-uwu) [reply src/Std/Time/Time/Unit/Nanosecond.lean:51]: I was trying to define `Date.Scalar` and `Time.Scalar` as wrappers around `Day.Offset` and `Nanoseconds.Offset` (not true right now). `Scalar` types represent absolute dates and times and `Offset` types represent shifts in dates and times, so they should be used in operations like `date.addDays`

Currently, `Time.Scalar` is defined as the same as `Duration`, which is designed for high precision using seconds as the primary unit and nanoseconds as a `Nanosecond.Span` but I think that I'm going to change `Time.Scalar` to use just `Nanosecond.Offset` or remove it.

I'm not sure if I should remove all the Scalar types or what should I do with them.

Comment (TwoFX) [reply src/Std/Time/Time/Unit/Nanosecond.lean:51]: Perhaps you could try to write an overview (from a user perspective) over the various types explaining what they represent and when to use which? I think a good example of this is the overview over the [java.time](https://docs.oracle.com/en%2Fjava%2Fjavase%2F21%2Fdocs%2Fapi%2F%2F/java.base/java/time/package-summary.html) package. Once we have that overview it might be easier to see which parts we might want to adjust.

Comment (the-sofi-uwu) [reply src/Std/Time/Time/Unit/Nanosecond.lean:54]: Added

File: src/Std/Time.lean [hunk 4]
```diff
@@ -0,0 +1,174 @@
...
+  - `Nanosecond.Offset`
+  - `Second.Offset`
+
+- Types without a correspondence to seconds:
+  - `Month.Offset`
+  - `Year.Offset`
+
+## Ordinal
+
+Ordinal types represent specific bounded values in reference to another unit, e.g, `Day.Ordinal`
```
Comment (TwoFX) [inline src/Std/Time.lean:54]:
```suggestion
Ordinal types represent specific bounded values in reference to another unit, e.g., `Day.Ordinal`
```

File: src/Std/Time.lean [hunk 5]
```diff
@@ -0,0 +1,174 @@
...
+Date and time components are classified into different types based how you SHOULD use them. These
+components are categorized as:
+
+## Offset
+
+Offsets represent unbounded shifts in specific date or time units. They are typically used in operations
+like `date.addDays` where a `Day.Offset` is the parameter. Some offsets, such as `Month.Offset`, do not
+correspond directly to a specific duration in seconds, as their value depends on the context (if
+the year is leap or the size of the month). Offsets with a clear correspondent to seconds can be
+converted because they use a internal type called `UnitVal`.
```
Comment (TwoFX) [inline src/Std/Time.lean:38]:
```suggestion
converted because they use an internal type called `UnitVal`.
```

File: src/Std/Time.lean [hunk 6]
```diff
@@ -0,0 +1,174 @@
...
+Dates and times are composed of these components. Dates are "absolute" value in contrast with Offsets
+that are just shifts in dates and times. Types like `Date` are made using of components such as `Year.Offset`,
+`Month.Ordinal`, and `Day.Ordinal`, with a proof of the date's validity. Some types, like `Date.Scalar`,
+are wrappers around offsets (e.g., `Day.Offset`) and represent absolute dates relative to the UNIX Epoch.
+
+## Date
+These types provide precision down to the day level, useful for representing and manipulating dates.
+
+- **`LocalDate`:** Represents a calendar date in the format `YYYY-MM-DD`.
+- **`LocalDate.Scalar`:** : Represents an absolute date with day-level precision in a compact format `DD`.
```
Comment (TwoFX) [inline src/Std/Time.lean:91]: It's not clear to me when I would use one over the other.

File: src/Std/Time.lean [hunk 7]
```diff
@@ -0,0 +1,174 @@
...
+## Time
+These types offer precision down to the nanosecond level, useful for representing and manipulating time of day.
+
+- **`LocalTime`**: Represents a time of day in the format `HH:mm:ss.SSSSSSSSS`.
+
+## Date and time
+Combines date and time into a single representation, useful for precise timestamps and scheduling.
+
+- **`LocalDateTime`**: Represents both date and time in the format `YYYY-MM-DDTHH:mm:ss.SSSSSSSSS`.
+- **`Timestamp`**: Represents a point in time with second-level precision.
```
Comment (TwoFX) [inline src/Std/Time.lean:104]: Again, it would be nice to have some explanation when to use which.

File: src/Std/Time.lean [hunk 8]
```diff
@@ -0,0 +1,174 @@
...
+
+## Zoned date and times.
+Combines date, time and time zones.
+
+- **`DateTime`**: Represents both date and time but with a time zone in the type constructor.
+- **`ZonedDateTime`**: An existencial version of the `DateTime`.
```
Comment (TwoFX) [inline src/Std/Time.lean:110]:
```suggestion
- **`ZonedDateTime`**: An existential version of the `DateTime`.
```

File: src/Std/Time.lean [hunk 9]
```diff
@@ -0,0 +1,174 @@
...
+
+## Duration
+Represents spans of time and the difference between two points in time.
+
+- **`Instant`**: Represents a non-negative instant in time with nanosecond precision, represents a
```
Comment (TwoFX) [inline src/Std/Time.lean:115]: So is the difference between `LocalDateTime` and `Instant` that the former refers to "the thing you see when you look at a (very high-precision) clock" while the other represents the abstract concept of time?

File: src/Std/Time/Duration.lean [hunk 10]
```diff
@@ -0,0 +1,79 @@
...
+namespace Time
+open Internal
+
+/--
+`Instant` represents a place in time with second and nanoseconds precision.
+-/
+structure Instant where
+  second : Second.Offset
+  nano : Nanosecond.Ordinal
+  valid : second.val ≥ 0 ∧ nano.val ≥ 0
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:20]: Isn't `nano.val >= 0` always true?

File: src/Std/Time/Duration.lean [hunk 11]
```diff
@@ -0,0 +1,79 @@
...
+  deriving Repr
+
+/--
+Time duration with nanosecond precision. This type allows negative duration.
+-/
+structure Duration where
+  second : Second.Offset
+  nano : Nanosecond.Span
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:28]: I wonder whether this representation allows for different encodings of the same duration. Are `Duration.mk 0 500000000` and `Duration.mk 1 -500000000` the same thing?

File: src/Std/Time/Duration.lean [hunk 12]
```diff
@@ -0,0 +1,79 @@
...
+import Std.Time.Time
+
+namespace Std
+namespace Time
+open Internal
+
+/--
+`Instant` represents a place in time with second and nanoseconds precision.
+-/
+structure Instant where
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:17]: I'm afraid I still don't understand what this structure represents. Which point on the time line does the instant `0` represent. How do I move from `Timestamp` or `ZonedDateTime` to `Instant`?

File: src/Std/Time.lean [hunk 13]
```diff
@@ -0,0 +1,174 @@
...
+time zones and durations. These types are designed to be strongly-typed and to avoid problems with
+conversion. It offers both unbounded and bounded variants to suit different use cases, like
+adding days to a date or representing ordinal values.
+
+# Date and Time Components
+
+Date and time components are classified into different types based how you SHOULD use them. These
+components are categorized as:
+
+## Offset
```
Comment (TwoFX) [inline src/Std/Time.lean:32]: I think it is very important to have such a concept of time offsets that are meaningful to humans. I'm just wondering whether it would be more ergonomic if all of these were bundled into a type like Java's [Period](https://docs.oracle.com/en%2Fjava%2Fjavase%2F21%2Fdocs%2Fapi%2F%2F/java.base/java/time/Period.html).

File: src/Std/Time.lean [hunk 14]
```diff
@@ -0,0 +1,174 @@
...
+import Std.Time.Date
+import Std.Time.Zoned
+import Std.Time.Format
+import Std.Time.DateTime
+import Std.Time.Notation
+
+namespace Time
+
+/-!
+# Time
```
Comment (TwoFX) [inline src/Std/Time.lean:16]: Thanks for writing this! It has cleared up many things for me.

File: src/Std/Time/Date/Unit/Day.lean [hunk 15]
```diff
@@ -0,0 +1,90 @@
...
+namespace Day
+
+/--
+`Ordinal` represents a bounded value for days, which ranges between 0 and 31.
+-/
+def Ordinal := Bounded.LE 1 31
+  deriving Repr, BEq, LE, LT
+
+instance [Le 1 n] [Le n 31] : OfNat Ordinal n where
+  ofNat := Bounded.LE.mk (Int.ofNat n) (And.intro (Int.ofNat_le.mpr Le.p) (Int.ofNat_le.mpr Le.p))
```
[the remark this answers is not in the document]
Comment (the-sofi-uwu) [reply src/Std/Time/Date/Unit/Day.lean:26]: It's not working because of the Le instances I guess.

File: src/Std/Time.lean (hunk 6 above)
Comment (the-sofi-uwu) [reply src/Std/Time.lean]: I decided to remove the Scalar type to avoid complexity.

File: src/Std/Time/Duration.lean (hunk 12 above)
Comment (the-sofi-uwu) [reply src/Std/Time/Duration.lean:17]: This type was created to represent an instant that was not bounded to an epoch, to give it meaning, it had to be used with another instant and create a duration, similar to how it's done in Rust. However, it I think that we can shift the objective and change it to be like a Timestamp that provides nanosecond precision.

File: src/Std/Time.lean (hunk 13 above)
Comment (the-sofi-uwu) [reply src/Std/Time.lean:33]: I'm not sure if it's the right approach, `Period` only stores YMD, these types are useful to represent units of time and convert between them easily like the `o-clock` library from Haskell.

**Comment by semorrison** [comment]
A very minor suggestion for an in-Lean use case: have the `@[deprecated (since := "2024-08-09")]` attribute complain if the date is not formatting sensibly.

File: src/Std/Time/Date/Unit/Day.lean [hunk 16]
```diff
@@ -0,0 +1,92 @@
+/-
+Copyright (c) 2024 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sofia Rodrigues
+-/
+prelude
+import Std.Time.Time
+import Std.Time.Internal
+import Lean.Data.Rat
```
Comment (hargoniX) [inline src/Std/Time/Date/Unit/Day.lean:9]: CI is failing because it doesn't find `Lean.Data.Rat`. From my understanding the dependency chain should go `Init` imported by `Std` imported by `Lean` so this `import` is not correct. If we want to use it in `Std` we probably need to move `Lean.Data.Rat` to `Std.Data.Rat`.

File: src/Std/Time/Format.lean [hunk 17]
```diff
@@ -0,0 +1,201 @@
+/-
+Copyright (c) 2024 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sofia Rodrigues
+-/
+prelude
+import Std.Time.Format.Basic
+import Std.Time.Notation
```
Comment (TwoFX) [inline src/Std/Time/Format.lean:8]: I think it would be good of there were general `LocalDateTime.parse`, `ZonedDateTime.parse`, `LocalDate.parse` etc. functions that can handle any reasonable format throws at them. Is there something like this or is something like this planned?

**Review by TwoFX — COMMENTED** [review]
Gentle reminder that we will not be able to merge this until there are decent tests for much of the functionality.

File: src/Std/Time/Time/HourMarker.lean [hunk 18]
```diff
@@ -0,0 +1,39 @@
...
+
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+`HourMarker` represents the two 12-hour periods of the day: `am` for hour between 12:00 AM and
+11:59 AM, and `pm` for hour between 12:00 PM and 11:59 PM.
```
Comment (TwoFX) [inline src/Std/Time/Time/HourMarker.lean:17]: I wonder if this should be
```suggestion
`HourMarker` represents the two 12-hour periods of the day: `am` for hours between 12:00 AM and
11:59 AM, and `pm` for hours between 12:00 PM and 11:59 PM.
```

File: src/Std/Time/Zoned/ZoneRules.lean [hunk 19]
```diff
@@ -0,0 +1,100 @@
...
+-/
+inductive StdWall
+  | wall
+  | standard
+  deriving Repr, Inhabited
+
+/--
+Represents a type of local time, including offset and daylight saving information.
+-/
+structure LocalTimeType where
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZoneRules.lean:37]: Is the TZ identifier (like `Asia/Tokyo`) available here? I think that it would be good to be able to query time zones by identifier.

Comment (the-sofi-uwu) [reply src/Std/Time/Zoned/ZoneRules.lean:37]: I'm going to add a field for the tz identifier.

File: src/Std/Time/Time/Unit/Second.lean [hunk 20]
```diff
@@ -0,0 +1,63 @@
...
+namespace Second
+open Internal
+
+set_option linter.all true
+
+/--
+`Ordinal` represents a bounded value for second, which ranges between 0 and 60.
+This accounts for potential leap second.
+-/
+def Ordinal := Bounded.LE 0 60
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Time/Unit/Second.lean]: Now it's parameterized by a leap second, both the Hour that can be `24:00:00` and the second `23:59:60`.

File: src/Std/Time.lean [hunk 21]
```diff
@@ -0,0 +1,173 @@
...
+  - `ZZZZ`: Timezone offset without the colon (e.g., +0300)
+  - `ZZZ`: Like `ZZZZ`, but with "UTC" for UTC
+  - `Z`: Like `ZZZZZ`, but with "Z" for UTC
+  - `z`: Timezone name (e.g., Brasilia Standard Time)
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+
+- **`date% DD-MM-YYYY`**: Defines a date in the `DD-MM-YYYY` format.
```
Comment (eric-wieser) [inline src/Std/Time.lean:165]: I remember at one poing being told that the naming convention of `foo%` elaborators was to indicate implementation details; has this stance changed?

Another option here would be `date(DD-MM-YYYY)`, which maybe avoids confusion  around precedence of subtraction

File: src/Std/Time/DateTime/LocalDateTime.lean [hunk 22]
```diff
@@ -0,0 +1,260 @@
...
+-/
+@[inline]
+def nanosecond (dt : LocalDateTime) : Nanosecond.Ordinal :=
+  dt.time.nano
+
+/--
+Get the current monotonic time.
+-/
+@[inline]
+def now : IO LocalDateTime :=
```
Comment (TwoFX) [inline src/Std/Time/DateTime/LocalDateTime.lean:255]: I'm not sure if you're planning to change some of this as you work out the time zone database stuff, but I think that there are currently still some holes in the `LocalDateTime` story:

- `LocalDateTime.now` queries the system clock in UTC and the formatting methods like `toLongDateFormatString` format it accordingly. I think this is just wrong, if I run `run_meta do println! (← LocalDateTime.now).toLongDateFormatString` then I should see exactly the time that I see in my task bar and not the current time in UTC.
- To use the formatting routines, I need to provide a time zone to convert the `LocalDateTime` into a point on the time line before formatting it. This should not be necessary. `LocalDateTime` literally represents "something that a clock shows" and I want to be able to format this directly. Also I think that the current syntax is too complicated for users. If I want to format an ISO 8601 date (pretending for a second that the `SQLDate` format isn't already defined) then it seems to me that I have to do something like `(date-spec% "YYYY-MM-DD" : Format .any).format (DateTime.ofLocalDateTime n .UTC)`. I think it would be good to explore whether this can be shortened, ideally to `n.format "YYYY-MM-DD"` (potentially at a bit of runtime cost compared to the compile-time format string).
- I think there is some arithmetic missing here. There is `addDays`, but I think we also need `addHours` etc. I'm guessing that this is probably not a 100% valid thing to do because leap seconds (?) but I think that the use-case is just too common to not offer this.

File: src/Std/Time/DateTime/Timestamp.lean [hunk 23]
```diff
@@ -0,0 +1,224 @@
...
+def toNanoseconds (tm : Timestamp) : Nanosecond.Offset :=
+  let nanos := tm.toSeconds.mul 1000000000
+  let nanos := nanos + (UnitVal.mk tm.nano.val)
+  nanos
+
+/--
+Adds a `Second.Offset` to a `Timestamp`
+-/
+@[inline]
+def addSeconds (t : Timestamp) (s : Second.Offset) : Timestamp :=
```
Comment (TwoFX) [inline src/Std/Time/DateTime/Timestamp.lean:168]: Should there be `HAdd` instances here?

File: src/Std/Time/DateTime/Timestamp.lean [hunk 24]
```diff
@@ -0,0 +1,224 @@
...
+def neg (t : Timestamp) : Timestamp := by
+  refine ⟨-t.second, t.nano.neg, ?_⟩
+  cases t.proof with
+  | inl n => exact Or.inr (n.imp Int.neg_le_neg Int.neg_le_neg)
+  | inr n => exact Or.inl (n.imp Int.neg_le_neg Int.neg_le_neg)
+
+/--
+Adds two timestamps together, handling any carry-over in nanoseconds.
+-/
+def add (t₁ t₂ : Timestamp) : Timestamp := by
```
Comment (TwoFX) [inline src/Std/Time/DateTime/Timestamp.lean:79]: I don't think `neg`, `add` and `sub` should be part of the public API for `Timestamp`, they are semantically only meaningful in the context of `Duration`.

File: src/Std/Time/DateTime/Timestamp.lean [hunk 25]
```diff
@@ -0,0 +1,224 @@
...
+-/
+@[inline]
+def sub (t₁ t₂ : Timestamp) : Timestamp :=
+  t₁.add t₂.neg
+
+/--
+Creates a new `Timestamp` out of `Second.Offset`.
+-/
+@[inline]
+def ofSeconds (s : Second.Offset) : Timestamp := by
```
Comment (TwoFX) [inline src/Std/Time/DateTime/Timestamp.lean:137]: I think that this should be called something like `ofSecondsSinceUnixEpoch` and there should be a `Duration.ofSeconds` function.

File: src/Std/Time/Duration.lean [hunk 26]
```diff
@@ -0,0 +1,26 @@
...
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+Duration is just a period between two timestamps.
+-/
+def Duration := Timestamp
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:18]: This type seems to be a bit underdeveloped, I think that there should be at least the various arithmetic methods for things like adding a duration to a timestamp, and a way to print a duration.

File: src/Std/Time/Format.lean [hunk 27]
```diff
@@ -0,0 +1,287 @@
...
+
+/--
+The AmericanDate format, which follows the pattern `MM/DD/YYYY`.
+-/
+def AmericanDate : Format .any := date-spec% "MM-DD-YYYY"
+
+/--
+The EuropeanDate format, which follows the pattern `DD/MM/YYYY`.
+-/
+def EuropeanDate : Format .any := date-spec% "DD-MM-YYYY"
```
Comment (TwoFX) [inline src/Std/Time/Format.lean:31]: The docstring and the code don't agree here.

File: src/Std/Time/Format.lean [hunk 28]
```diff
@@ -0,0 +1,287 @@
...
+
+/--
+The Time12Hour format, which follows the pattern `HH:mm:ss aa` for representing time
+in a 12-hour clock format with an AM/PM marker.
```
Comment (TwoFX) [inline src/Std/Time/Format.lean:35]: Should specify here that the AM/PM marker is lowercase as you currently have it. I would argue that uppercase would be better though.

File: src/Std/Time/Format/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,716 @@
...
+    match res with
+    | .error err => fail err
+    | .ok res => pure res
+  | .string s => skipString s *> pure date
+
+namespace Format
+
+/--
+Constructs a new `Format` specification for a date-time string. Modifiers can be combined to create
+custom formats, such as %YYYY, MMMM, D".
```
Comment (TwoFX) [inline src/Std/Time/Format/Basic.lean:621]: Not sure if the `%` and `"` in this docstring are intended this way.

File: src/Std/Time/Format.lean [hunk 30]
```diff
@@ -0,0 +1,287 @@
...
+namespace Time
+namespace Formats
+
+set_option linter.all true
+
+/--
+The ISO8601 format, which is always 24 or 27 characters long, used for representing date and time in
+a standardized format. The format follows the pattern `YYYY-MM-DD'T'hh:mm:ss'Z'`.
+-/
+def ISO8601 : Format .any := date-spec% "YYYY-MM-DD'T'hh:mm:ss.sssZ"
```
Comment (TwoFX) [inline src/Std/Time/Format.lean:21]: According to the naming convention all of the names here should start with a lowercase letter.

File: src/Std/Time.lean [hunk 31]
```diff
@@ -0,0 +1,171 @@
...
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time.lean:163]: This issue happens due to the new behavior of `Bounded.LE` which correctly flags `29-02-2023` as invalid (because it is parsed as 29-02-2023) but doesn't do the same for `32-02-2023` because `32` wraps around a valid `Bounded.LE` and returns `1`. I'll update the macro to check for this situation too.

File: src/Std/Time.lean (hunk 21 above)
Comment (algebraic-dev) [reply src/Std/Time.lean]: It seems that this discussion started on a Zulip thread that ended with no conclusion. As other elaborators have folllowed a similar pattern, this one will follow this pattern too. The other option avoids some problems but it will make `date` a keyword that is not reasonable because people will probably use `date` as a variable.

File: src/Std/Time/Date/LocalDate.lean [hunk 32]
```diff
@@ -0,0 +1,246 @@
...
+  let m := date.month.toInt
+  let y := date.year.toInt
+
+  let y := if m < 2 then y - 1 else y
+  let m := if m < 2 then m + 12 else m
+
+  let k := y % 100
+  let j := y / 100
+  let part := q + (13 * (m + 1)) / 5 + k + (k / 4)
+  let h :=  if y ≥ 1582 then part + (j/4) - 2*j else part + 5 - j
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/LocalDate.lean]: Removed the fallback to the Julian calendar.

File: src/Std/Time/Format.lean [hunk 33]
```diff
@@ -0,0 +1,287 @@
...
+The Time24Hour format, which follows the pattern `hh:mm:ss` for representing time
+in a 24-hour clock format.
+-/
+def time24Hour : Format .any := date-spec% "hh:mm:ss"
+
+/--
+The SQLDate format, which follows the pattern `YYYY-MM-DD` and is commonly used
+in SQL databases to represent dates.
+-/
+def sqlDate : Format .any := date-spec% "YYYY-MM-DD"
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Format.lean:49]: Fixed.

File: src/Std/Time/Date/Unit/Day.lean [hunk 34]
```diff
@@ -0,0 +1,131 @@
...
+
+instance : Inhabited (Ordinal.OfYear leap) where
+  default := by
+    refine ⟨1, And.intro (by decide) ?_⟩
+    split <;> simp
+
+/--
+`Offset` represents an offset in days. It is defined as an `Int`.
+-/
+def Offset : Type := UnitVal 86400
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/Unit/Day.lean:56]: Added both functions.

File: src/Std/Time.lean (hunk 21 above)
Comment (eric-wieser) [reply src/Std/Time.lean]: I agree that the conclusion was unclear on the zulip thread.

However, `date(` would not make `date` a keyword, nor would it prevent a local variable being called `date`:` `f(x)` is not legal function application syntax in Lean, so it is fine to create new "keywords" that end in `(` without affecting function application.

File: src/Std/Time/Zoned/ZoneRules.lean [hunk 35]
```diff
@@ -0,0 +1,100 @@
...
+-/
+def findTransitionForTimestamp (zoneRules : ZoneRules) (timestamp : Timestamp) : Option Transition :=
+  if let some idx := zoneRules.transitions.findIdx? (λ t => t.time.val > timestamp.val)
+    then zoneRules.transitions.get? (idx - 1)
+    else zoneRules.transitions.back?
+
+/--
+Apply leap seconds to a Timestamp
+-/
+def applyLeapSeconds (timeInSeconds : Timestamp) (leapSeconds : Array LeapSecond) : Timestamp := Id.run do
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Zoned/ZoneRules.lean]: Some other functions use this function to create a ZonedDateTime out of a Timestamp now.

File: src/Std/Time/DateTime/Timestamp.lean (hunk 24 above)
Comment (algebraic-dev) [reply src/Std/Time/DateTime/Timestamp.lean]: I changed them to protected so I can use them in `Duration.lean`

**Comment by algebraic-dev** [comment]
Ok I accidentally used push force :S.

File: src/Std/Time/Duration.lean [hunk 36]
```diff
@@ -0,0 +1,132 @@
...
+  Timestamp.ofSeconds secs
+
+/--
+Creates a new `Duration` out of `Nanosecond.Offset`.
+-/
+def ofNanosecond (secs : Nanosecond.Offset) : Duration :=
+  Timestamp.ofNanoseconds secs
+
+/--
+Calculates a `Duration` out of two `Timestamp`s.
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:60]: This docstring seems to be incorrect.

File: src/Std/Time/Duration.lean [hunk 37]
```diff
@@ -0,0 +1,132 @@
...
+  return Std.Time.Timestamp.sub cur f
+
+/--
+Adds a `Duration` to a `Timestamp`.
+-/
+def add (f : Timestamp) (d : Duration) : Timestamp :=
+  Std.Time.Timestamp.add f d
+
+/--
+Checks if the duration is zero seconds ands zero nanoseconds.
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:73]:
```suggestion
Checks if the duration is zero seconds and zero nanoseconds.
```

File: src/Std/Time/Duration.lean [hunk 38]
```diff
@@ -0,0 +1,132 @@
...
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+Duration is just a period between two timestamps.
+-/
+def Duration := Timestamp
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:19]: Defining `Duration` in terms of `Timestamp` seems very dangerous to me. To me it feels like they happen to contain the same data but are very different semantically, so I would prefer if either
*  `Duration` was defined independently, or
* `Timestamp` was defined in terms of `Duration` (since `Timestamp` is the _duration_ since UNIX epoch).

It should not be possible to take the `neg` of a timestamp and it should not be possible to `add` two timestamps. The functions that do `Timestamp + Duration` and `Duration + Duration` should of course share code, but that is an implementation detail.

File: src/Std/Time/Duration.lean [hunk 39]
```diff
@@ -0,0 +1,132 @@
...
+  hSub := Std.Time.Timestamp.sub
+
+end Duration
+
+namespace PlainDate
+
+/--
+Calculates the duration between a given `PlainDate` and a specified date.
+-/
+def since [ToTimestamp α] (date : PlainDate) (since : α) : Duration :=
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:91]: These functions seem like it is very easy to accidentally get the argument order wrong; there should be an example in the docstring at least.

File: src/Std/Time/Date/Unit/Month.lean [hunk 40]
```diff
@@ -0,0 +1,259 @@
...
+  | ⟨8, _⟩ | ⟨9, _⟩ | ⟨10, _⟩ | ⟨11, _⟩ | ⟨12, _⟩ => simp; decide
+
+/--
+Check if the day is valid in a month and a leap year.
+-/
+abbrev Valid (leap : Bool) (month : Month.Ordinal) (day : Day.Ordinal) : Prop :=
+  day.val ≤ (daysWithoutProof leap month).val
+
+instance : Decidable (Valid leap month day) :=
+  dite (day ≤ daysWithoutProof leap month) isTrue isFalse
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/Unit/Month.lean:209]: Fixed it, I think that without `.val` is the preferred way.

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 41]
```diff
@@ -0,0 +1,280 @@
...
+/--
+Checks if the `DateTime` is in a leap year.
+-/
+def inLeapYear (date : ZonedDateTime) : Bool :=
+  date.year.isLeap
+
+instance : ToTimestamp ZonedDateTime where
+  toTimestamp dt := dt.toTimestamp
+
+instance : HAdd ZonedDateTime (Day.Offset) ZonedDateTime where
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:254]: Did you intentionally not add nanoseconds here?

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 42]
```diff
@@ -0,0 +1,280 @@
...
+
+instance : HSub ZonedDateTime (Minute.Offset) ZonedDateTime where
+  hSub := subMinutes
+
+instance : HAdd ZonedDateTime (Second.Offset) ZonedDateTime where
+  hAdd := addSeconds
+
+instance : HSub ZonedDateTime (Second.Offset) ZonedDateTime where
+  hSub := subSeconds
+
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:277]: Should there be `HSub ZonedDateTime ZonedDateTime Duration`?

File: src/Std/Time.lean [hunk 43]
```diff
@@ -0,0 +1,171 @@
...
+  - `Z`: Like `ZZZZZ`, but with "Z" for UTC
+  - `z`: Timezone name (e.g., Brasilia Standard Time)
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+
+- **`date% YYYY-MM-DD`**: Defines a date in the `YYYY-MM-DD` format.
+- **`date% HH:mm:ss`**: Defines a time in the `HH:mm:ss` format.
+- **`date% HH:mm:ss.sssssss`**: Defines a time in the `HH:mm:ss.sssssss` format, including fractional seconds.
```
Comment (TwoFX) [inline src/Std/Time.lean:165]: There seems to be something strange with this syntax, when I do
```lean
import Std.Time

open Std.Time

def main (_ : List String) : IO UInt32 := do
  let early := date% 03:22:51
  return 0
```
I get a strange error message
```
scratch.lean:6:2
application type mismatch
  pure PUnit.unit
argument
  PUnit.unit
has type
  PUnit : Sort ?u.66
but is expected to have type
  UInt32 : Type

scratch.lean:6:23
unexpected token ':'; expected command
```

File: src/Std/Time/DateTime/PlainDateTime.lean [hunk 44]
```diff
@@ -0,0 +1,369 @@
...
+  time : PlainTime
+
+  deriving Inhabited, BEq
+
+namespace PlainDateTime
+
+/--
+Converts a `PlainDateTime` to a `Timestamp`
+-/
+def toLocalTimestamp (dt : PlainDateTime) : Timestamp :=
```
Comment (TwoFX) [inline src/Std/Time/DateTime/PlainDateTime.lean:40]: I just noticed that there is also `PlainDateTime.toTimestamp`, so now I'm even more confused.

File: src/Std/Time/Duration.lean [hunk 45]
```diff
@@ -0,0 +1,132 @@
...
+  Std.Time.Timestamp.sub date since
+
+end PlainDate
+
+namespace PlainDateTime
+
+/--
+Calculates the duration between a given `PlainDateTime` and a specified date.
+-/
+def since [ToTimestamp α] (date : PlainDateTime) (since : α) : Duration :=
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:103]: Something is clearly wrong here!
```lean
import Std.Time

open Std.Time

def now := PlainDateTime.ofUTCTimestamp ⟨1724859638, ⟨907328169, by decide⟩, by decide⟩
def after := PlainDateTime.ofUTCTimestamp ⟨1724859639, ⟨907641224, by decide⟩, by decide⟩
def duration := after.since now
#eval now.format "HH:mm:ss.ssssssss" -- "03:40:38.00000038"
#eval after.format "HH.mm:ss.ssssssss" -- "03.40:39.00000039"
#eval duration -- "1.313055s"
```

File: src/Std/Time.lean [hunk 46]
```diff
@@ -0,0 +1,171 @@
...
+- **`date% YYYY-MM-DD:HH:mm:ss`**: Defines a datetime in the `YYYY-MM-DD:HH:mm:ss` format.
```
Comment (TwoFX) [inline src/Std/Time.lean:166]: Is it correct that it is currently not possible to parse a `PlainDateTime` with nanosecond precision without defining a custom date-spec? If so, I think that needs to be fixed.

File: src/Std/Time/Format.lean [hunk 47]
```diff
@@ -0,0 +1,437 @@
...
+  Formats.dateTime24Hour.format (DateTime.ofPlainDateTime pdt .UTC)
+
+/--
+Parses a `String` in the `AscTime` or `LongDate` format and returns a `PlainDateTime`.
+-/
+def parse (date : String) : Except String PlainDateTime :=
+  fromAscTimeString date
+  <|> fromLongDateFormatString date
+
+instance : ToString PlainDateTime where
```
Comment (TwoFX) [inline src/Std/Time/Format.lean:357]: In practical usage I found it quite frustrating that this doesn't give the full precision that the type offers (i.e., nanoseconds). This is certainly not acceptable for the `Repr` instance, because that needs to round-trip, so it needs to return something (like a `date%` literal) that Lean can parse into an equal object.

File: src/Std/Time.lean (hunk 43 above)
Comment (algebraic-dev) [reply src/Std/Time.lean:165]: Fixed the documentation.

File: src/Std/Time/Zoned/ZonedDateTime.lean (hunk 42 above)
Comment (algebraic-dev) [reply src/Std/Time/Zoned/ZonedDateTime.lean:277]: Added instances for `ZonedDateTime`, `DateTime`, `PlainDateTime` and `PlainDate`.

File: src/Std/Time/Zoned/ZonedDateTime.lean (hunk 41 above)
Comment (algebraic-dev) [reply src/Std/Time/Zoned/ZonedDateTime.lean:254]: Added instances for that, It was not intentional.

File: src/Std/Time/Duration.lean (hunk 38 above)
Comment (algebraic-dev) [reply src/Std/Time/Duration.lean]: I changed Timestamp to depend on Duration.

**Comment by eric-wieser** [comment]
Would you mind replying to my comment at https://github.com/leanprover/lean4/pull/4904#discussion_r1724020988, which I think has got lost in the diff?

File: src/Std/Time.lean [hunk 48]
```diff
@@ -0,0 +1,171 @@
...
+  - `ZZZZ`: Timezone offset without the colon (e.g., +0300)
+  - `ZZZ`: Like `ZZZZ`, but with "UTC" for UTC
+  - `Z`: Like `ZZZZZ`, but with "Z" for UTC
+  - `z`: Timezone name (e.g., Brasilia Standard Time)
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+
+- **`date% YYYY-MM-DD`**: Defines a date in the `YYYY-MM-DD` format.
```
Comment (TwoFX) [inline src/Std/Time.lean:163]: It seems that it is currently not possible to parse dates with small or large years (like negative years or years which are not four digits long.

File: src/Std/Time/Duration.lean (hunk 45 above)
Comment (algebraic-dev) [reply src/Std/Time/Duration.lean]: The problem was in the pretty printing of the duration and `ssssssss` that needs 9 s to format nanoseconds. Fixed it and added a test.

File: src/Std/Time.lean (hunk 46 above)
Comment (algebraic-dev) [reply src/Std/Time.lean]: Added support for it with ":" instead of "." because it was resulting in an error.

File: src/Std/Time.lean (hunk 48 above)
Comment (eric-wieser) [reply src/Std/Time.lean:165]: According to https://www.tondering.dk/claus/cal/iso8601.php, ISO8601 says that five digit years are to be written `+10000`.

File: src/Std/Time.lean (hunk 21 above)
Comment (algebraic-dev) [reply src/Std/Time.lean]: I'm planning to discuss this with the team at Lean FRO to help in the standardization of term elaborators in the Std library.

File: src/Std/Time/Duration.lean (hunk 39 above)
Comment (algebraic-dev) [reply src/Std/Time/Duration.lean]: Added examples.

File: src/Std/Time/Format.lean (hunk 47 above)
Comment (algebraic-dev) [reply src/Std/Time/Format.lean:419]: I added the full precision to each type and a form that can be parsed by the `date%`.

File: src/Std/Time/Format.lean [hunk 49]
```diff
@@ -0,0 +1,505 @@
...
+-/
+def parse (date : String) : Except String PlainDateTime :=
+  fromAscTimeString date
+  <|> fromLongDateFormatString date
+  <|> fromDateTimeString date
+
+instance : ToString PlainDateTime where
+  toString := toLeanDateTimeString
+
+instance : Repr PlainDateTime where
```
Comment (TwoFX) [inline src/Std/Time/Format.lean:422]: This currently return something like `2024-08-30:08:56:43:276801081`, which is almost right, but the idea is that it actually round-trips, so it should return `date% 2024-08-30:08:56:43:276801081`.

File: src/Std/Time/DateTime/PlainDateTime.lean [hunk 50]
```diff
@@ -0,0 +1,369 @@
...
+  date.year.isLeap
+
+/--
+Getter for the `Second` inside of a `PlainDateTime`.
+-/
+@[inline]
+def nanosecond (dt : PlainDateTime) : Nanosecond.Ordinal :=
+  dt.time.nano
+
+instance : HAdd PlainDateTime Day.Offset PlainDateTime where
```
Comment (TwoFX) [inline src/Std/Time/DateTime/PlainDateTime.lean:337]: Missing `HAdd PlainDateTime Month.Offset PlainDateTime` or did you leave it out so that the user explicitly has to consider whether to clip or roll over?

File: src/Std/Time/Zoned/Database/Basic.lean [hunk 51]
```diff
@@ -0,0 +1,112 @@
...
+-/
+class Database (α : Type) where
+
+  /--
+  Loads a `ZoneRules` by it's id.
+  -/
+  load : α → String → IO TimeZone.ZoneRules
+
+  /--
+  Loads a `ZoneRules` that is setted by the local computer.
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/Basic.lean:26]:
```suggestion
  Loads a `ZoneRules` that is set by the local computer.
```

File: src/Std/Time/Zoned/Database/Basic.lean [hunk 52]
```diff
@@ -0,0 +1,112 @@
...
+import Std.Time.Zoned.ZoneRules
+import Std.Time.Zoned.Database.TzIf
+
+namespace Std
+namespace Time
+
+set_option linter.all true
+
+/--
+A timezone database that we can read the `ZoneRules` of some area by it's id.
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/Basic.lean:16]:
```suggestion
A timezone database from which we can read the `ZoneRules` of some area by its id.
```

File: src/Std/Time/Zoned/Database/Basic.lean [hunk 53]
```diff
@@ -0,0 +1,112 @@
...
+-/
+class Database (α : Type) where
+
+  /--
+  Loads a `ZoneRules` by it's id.
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/Basic.lean:21]:
```suggestion
  Loads a `ZoneRules` by its id.
```

File: src/Std/Time/Zoned/TimeZone.lean [hunk 54]
```diff
@@ -0,0 +1,71 @@
...
+  isDST : Bool
+  deriving Inhabited, Repr, BEq
+
+namespace TimeZone
+
+/--
+Fetches the current timestamp from the system.
+-/
+@[extern "lean_get_timezone_offset"]
+opaque getCurrentTimezone : IO TimeZone
```
Comment (TwoFX) [inline src/Std/Time/Zoned/TimeZone.lean:41]: Perhaps this should be called `getSystemTimezone`?

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 55]
```diff
@@ -0,0 +1,302 @@
...
+/--
+Creates a new `Timestamp` out of a `ZonedDateTime`
+-/
+@[inline]
+def toTimestamp (date : ZonedDateTime) : Timestamp :=
+  date.snd.toTimestamp
+
+/--
+Creates a new `DateTime` out of a `Timestamp`
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:48]:
```suggestion
Creates a new `ZonedDateTime` out of a `Timestamp`
```

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 56]
```diff
@@ -0,0 +1,302 @@
...
+  let transition ← rules.findTransitionForTimestamp tm
+  let tm := rules.applyLeapSeconds tm
+  return ofTimestamp tm transition.PlainTimeType.getTimeZone
+
+/--
+Changes the `TimeZone` to a new one.
+-/
+@[inline]
+def convertTimeZone (date : ZonedDateTime) (tz₁ : TimeZone) : ZonedDateTime :=
+  ofTimestamp (date.toTimestamp) tz₁
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:61]:
```suggestion
  ofTimestamp date.toTimestamp tz₁
```

File: src/Std/Time/Zoned/Database/TZdb.lean [hunk 57]
```diff
@@ -0,0 +1,88 @@
...
+    then parseTZIfFromDisk path id
+    else throw (IO.userError "cannot read the id of the path.")
+
+/--
+Reads timezone rules from disk based on the provided file path and timezone ID.
+-/
+def readRulesFromDisk (path : System.FilePath) (id : String) : IO ZoneRules := do
+  parseTZIfFromDisk (System.FilePath.join path id) id
+
+instance : Database TZdb where
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/TZdb.lean:86]: There is some documentation missing and probably also a bunch of convenience functions. I was trying to transform a `ZonedDateTime` to the time zone with id `Asia/Tokyo` sourced from the time zone database and I couldn't figure out how to do it. I think there should be a function like `getTimeZoneById : String -> IO TimeZone` (exact naming up to you) and perhaps even `ZonedDateTime.nowAt : String -> IO ZonedDateTime`.

File: src/Std/Time.lean [hunk 58]
```diff
@@ -0,0 +1,173 @@
...
+  - `ZZZ`: Like `ZZZZ`, but with "UTC" for UTC
+  - `Z`: Like `ZZZZZ`, but with "Z" for UTC
+  - `z`: Timezone name (e.g., Brasilia Standard Time)
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+The `.sssssssss` can be ommited in most cases.
+
+- **`date% YYYY-MM-DD`**: Defines a date in the `YYYY-MM-DD` format.
```
Comment (hargoniX) [inline src/Std/Time.lean:165]: Is `date%` supposed to be ISO 8601 conform? I went through the bug tracker of https://github.com/time-rs/time and https://github.com/chronotope/chrono to look for some parsing bugs etc. that might show interesting edge cases and there are tickets that contain string `date%` cannot parse but their 8601 parser can parse, for example:
```lean
#eval date% 2022-07-22T12:52:50.349409+00:00 -- https://github.com/time-rs/time/issues/488
#eval date% 2023-12-11T11:31:60.000Z -- https://github.com/time-rs/time/issues/674
#eval date% 2017-06-22T13:32:16Z -- https://github.com/chronotope/chrono/issues/163
```
Are these in scope?

File: src/Std/Time.lean [hunk 59]
```diff
@@ -0,0 +1,173 @@
...
+- **`date% HH:mm:ss:sssssssss`**: Defines a time in the `HH:mm:ss:sssssssss` format, including fractional seconds.
+- **`date% YYYY-MM-DD:HH:mm:ss.sssssssss`**: Defines a datetime in the `YYYY-MM-DD:HH:mm:ss:sssssssss` format.
+- **`date% YYYY-MM-DDTHH:mm:ss:sssssssssZ`**: Defines a datetime with a timezone in the `YYYY-MM-DDTHH:mm:ss:sssssssssZ` format.
+- **`time% HH:mm:ss:sssssssss`**: Defines a time in the `HH:mm:ss` format.
+- **`offset% +HH:mm`**: Defines a timezone offset in the format `+HH:mm`.
+- **`timezone% NAME/ID offset% +HH:mm`**: Defines a timezone with a name and an offset.
```
Comment (hargoniX) [inline src/Std/Time.lean:171]: Above you say that we are following ISO standards (again presumably 8601) but ISO 8601 does not have a timezone specification. I assume that these are IANA time zone identifiers?

File: tests/lean/run/timeParse.lean [hunk 60]
```diff
@@ -0,0 +1,203 @@
+import Std.Time
+open Std.Time
+
+def ISO8601UTC : Format .any := date-spec% "YYYY-MM-DD'T'hh:mm:ssZZZ"
```
Comment (hargoniX) [inline tests/lean/run/timeParse.lean:4]: This `Format` definitions also fails on the examples I showed in `date%` above. Then again it is just a test so this is probably fine. I just wanted to point out that this `date-spec` is apparently not conform:
```lean
def foo :=
  let dates := ["2022-07-22T12:52:50.349409+00:00", "2023-12-11T11:31:60.000Z", "2017-06-22T13:32:16Z"]
  dates.map ISO8601UTC.parse
#eval foo -- all evaluate to errors
```

File: src/runtime/io.cpp [hunk 61]
```diff
@@ -521,6 +521,52 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+/* Std.Time.TimeZone.getCurrentTimezone : IO Timezone */
+extern "C" LEAN_EXPORT obj_res lean_get_timezone_offset(obj_arg /* w */) {
+    using namespace std::chrono;
+
+    auto now = system_clock::now();
+    auto now_time_t = system_clock::to_time_t(now);
+
+    std::tm tm_info;
+#if defined(_MSC_VER)
+    localtime_s(&tm_info, &now_time_t);
```
Comment (hargoniX) [inline src/runtime/io.cpp:550]: According to https://learn.microsoft.com/en-us/cpp/c-runtime-library/reference/localtime-s-localtime32-s-localtime64-s `localtime_s` can throw errors. Even though the value here is clearly not going to be too big we might want to propagate these up to be faithful to the API?

File: src/runtime/io.cpp [hunk 62]
```diff
@@ -521,6 +521,52 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+#else
+    localtime_r(&now_time_t, &tm_info);
```
Comment (hargoniX) [inline src/runtime/io.cpp:552]: Similarly here but the error is returned differently, see the man page.

File: src/runtime/io.cpp [hunk 63]
```diff
@@ -521,6 +521,52 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+
+/* Std.Time.TimeZone.getCurrentTimezone : IO Timezone */
+extern "C" LEAN_EXPORT obj_res lean_get_timezone_offset(obj_arg /* w */) {
+    using namespace std::chrono;
+
+    auto now = system_clock::now();
+    auto now_time_t = system_clock::to_time_t(now);
+
+    std::tm tm_info;
+#if defined(_MSC_VER)
```
Comment (hargoniX) [inline src/runtime/io.cpp:549]: Usually we determine whether we are on windows with `LEAN_WINDOWS`, is there a reason for `_MSC_VER`?

**Review by hargoniX — COMMENTED** [review]
I don't know much about time implementations themselves so this review is mostly based on "I saw stuff elsewhere that doesn't work for us". If I'm misunderstanding the intentions of our APIs feel free to ignore this.

File: src/Std/Time.lean (hunk 58 above)
Comment (TwoFX) [reply src/Std/Time.lean:165]: I think that these are not supposed to be compliant, mainly because it seems we cannot use `.` in our notation for parsing reasons? It might be a good idea to change the notation from separating date and time with a colon to separating them with a `T` instead.

Comment (TwoFX) [reply src/Std/Time.lean:165]: I also looked in ISO 8601:2004 (I haven't got hold of ISO 8601:2019 yet, but I might later), and there for the decimal separator they allow `.` and `,` and comma is preferred over period. Colon is disallowed. So one could argue that the best format would be `date% YYYY-MM-DDTHH:mm:ss,sssssssss`

File: src/Std/Time/DateTime/PlainDateTime.lean (hunk 50 above)
Comment (algebraic-dev) [reply src/Std/Time/DateTime/PlainDateTime.lean:337]: I leave it out so the user needs to decide if it will clip or roll over.

File: src/Std/Time/Time/Unit/Hour.lean [hunk 64]
```diff
@@ -0,0 +1,94 @@
...
+  reprPrec r l := reprPrec r.val l
+
+instance : OfNat (Ordinal leap) n := by
+  have inst := inferInstanceAs (OfNat (Bounded.LE 0 (0 + (23 : Nat))) n)
+  cases leap
+  · exact inst
+  · exact ⟨inst.ofNat.expandTop (by decide)⟩
+
+instance : OfNat (Ordinal true) 24 where
+  ofNat := Bounded.LE.mk (Int.ofNat 24) (by decide)
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Time/Unit/Hour.lean:36]: I think that's just some things that I left when was writing this instance and then the other one.

File: src/Std/Time/Duration.lean [hunk 65]
```diff
@@ -0,0 +1,305 @@
...
+  refine ⟨-duration.second, duration.nano.neg, ?_⟩
+  cases duration.proof with
+  | inl n => exact Or.inr (n.imp Int.neg_le_neg Int.neg_le_neg)
+  | inr n => exact Or.inl (n.imp Int.neg_le_neg Int.neg_le_neg)
+
+/--
+Adds two durations together, handling any carry-over in nanoseconds. It should not be used for `Duration`.
+The subtraction of two `Duration` returns a duration but the addition does not make sense at all.
+-/
+def add (t₁ t₂ : Duration) : Duration := by
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Duration.lean:78]: Yeah, it's much easier than this huge code.

File: src/Std/Time/Date/WeekDate.lean [hunk 66]
```diff
@@ -0,0 +1,53 @@
...
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+`WeekDate` represents a date using a combination of a week of the year and the year.
+-/
+structure WeekDate where
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/WeekDate.lean:20]: I decided to remove this type because we don't have a good case of use right now.

[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/WeekDate.lean:20]: I decided to remove this type because we don't have a good case of use right now.

File: src/Std/Time/DateTime/Timestamp.lean [hunk 67]
```diff
@@ -0,0 +1,218 @@
...
+import Std.Time.Duration
+
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+Timestamp is just a period between two timestamps.
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/DateTime/Timestamp.lean:20]: Fixed.

File: src/Std/Time/Time/Unit/Basic.lean [hunk 68]
```diff
@@ -0,0 +1,57 @@
...
+
+namespace Std
+namespace Time
+namespace Second.Offset
+open Internal
+
+set_option linter.all true
+
+/--
+Converts a `Second.Offset` to a `Minute.Offset`.
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Time/Unit/Basic.lean:30]: Added all variants.

File: src/runtime/io.cpp (hunk 63 above)
Comment (algebraic-dev) [reply src/runtime/io.cpp:549]: I was not aware of `LEAN_WINDOWS`.

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 69]
```diff
@@ -0,0 +1,302 @@
...
+Returns the weekday.
+-/
+@[inline]
+def weekday (zdt : ZonedDateTime) : Weekday :=
+  zdt.snd.weekday
+
+/--
+Add `Day.Offset` to a `ZonedDateTime`.
+-/
+def addDays (dt : ZonedDateTime) (days : Day.Offset) : ZonedDateTime :=
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Zoned/ZonedDateTime.lean:143]: Fixed this problem.

File: src/Std/Time/Date/Unit/Day.lean [hunk 70]
```diff
@@ -0,0 +1,148 @@
...
+namespace Time
+namespace Day
+open Lean Internal
+
+set_option linter.all true
+
+/--
+`Ordinal` represents a bounded value for days, which ranges between 1 and 31.
+-/
+def Ordinal := Bounded.LE 1 31
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/Unit/Day.lean:19]: Added

File: src/Std/Time.lean [hunk 71]
```diff
@@ -0,0 +1,173 @@
...
+  - `z`: Timezone name (e.g., Brasilia Standard Time)
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+The `.sssssssss` can be ommited in most cases.
+
+- **`date% YYYY-MM-DD`**: Defines a date in the `YYYY-MM-DD` format.
+- **`date% HH:mm:ss:sssssssss`**: Defines a time in the `HH:mm:ss:sssssssss` format, including fractional seconds.
+- **`date% YYYY-MM-DD:HH:mm:ss.sssssssss`**: Defines a datetime in the `YYYY-MM-DD:HH:mm:ss:sssssssss` format.
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time.lean:167]: Fixed

File: src/Std/Time/Date/Unit/WeekOfYear.lean [hunk 72]
```diff
@@ -0,0 +1,62 @@
...
+instance : OfNat Ordinal n :=
+  inferInstanceAs (OfNat (Bounded.LE 1 (1 + (52 : Nat))) n)
+
+instance : Inhabited Ordinal where
+  default := 1
+
+/--
+`Offset` represents an offset in weeks. It is defined as an `Int`.
+-/
+def Offset : Type := UnitVal (86400 * 7)
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/Unit/WeekOfYear.lean]: Changed the name and added instances.

File: src/Std/Time.lean [hunk 73]
```diff
@@ -0,0 +1,173 @@
...
+import Std.Time.Notation
+import Std.Time.Duration
+
+namespace Std
+namespace Time
+
+/-!
+# Time
+
+The Lean4 API for date, time, and duration functionalities, following the ISO standards.
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time.lean]: Yes, It's only based on ISO8601.

File: src/Std/Time.lean (hunk 59 above)
Comment (algebraic-dev) [reply src/Std/Time.lean:171]: Yes, I'm using a format that is similar to the IANA Timezone identifiers.

File: src/Std/Time.lean (hunk 58 above)
Comment (algebraic-dev) [reply src/Std/Time.lean:165]: I'm having problems trying to create a syntax with `noWs 'T' noWs`, the `quotation` gets confused with something like `$date:dateT$time:time`. The other problem is that the `sssssssss` should be the fractional part, not the nanoseconds part, so if someone writes `13:12:11,1` the 1 will be understood as `0000000001` nanoseconds.

File: src/runtime/io.cpp (hunk 61 above)
Comment (algebraic-dev) [reply src/runtime/io.cpp:550]: Added error handling for localtime_s.

File: src/runtime/io.cpp (hunk 62 above)
Comment (algebraic-dev) [reply src/runtime/io.cpp:552]: Added error handling for localtime_r.

File: tests/lean/run/timeParse.lean (hunk 60 above)
Comment (algebraic-dev) [reply tests/lean/run/timeParse.lean]: It is just an example in the tests just to test some simplified formats. It was not parsing the entire ISO 8601 format, so in the first example you included nanoseconds that were not specified in the format, in the second you have a leap second in a minute and hour that is 23:59:60 that does not configure something valid right now and `ZZZ` does not include `Z`.

File: src/Std/Time/Zoned/Database/TZdb.lean (hunk 57 above)
Comment (algebraic-dev) [reply src/Std/Time/Zoned/Database/TZdb.lean:86]: But this function would use the `TZdb` database, that would result in different results in different platforms.

Comment (TwoFX) [reply src/Std/Time/Zoned/Database/TZdb.lean:86]: I'm afraid I don't understand what exactly your objection is.

File: src/Std/Time.lean (hunk 58 above)
Comment (eric-wieser) [reply src/Std/Time.lean:165]: > the `quotation` gets confused with something like `$date:dateT$time:time`.

`$(date)T$(time)` seems to work.

File: src/Std/Time/Zoned/Database/TZdb.lean (hunk 57 above)
Comment (algebraic-dev) [reply src/Std/Time/Zoned/Database/TZdb.lean:86]: i think i just got confused with the type signature you provided. it doesn't say that getTimeZoneById receives a TZdb or a [Database db].

File: src/Std/Time.lean (hunk 58 above)
Comment (algebraic-dev) [reply src/Std/Time.lean:165]: I tried using your suggestion with `syntax date noWs "T" noWs time : datetime`, but I'm still running into issues. specifically, when I changed [this line](https://github.com/leanprover/lean4/pull/4904/files#diff-331a2ce2fba831c8b23c02b797c734d6204f36a3deb416cf69239039e69303edR107) line to `(datetime| $(date)T$(time))`, I got an `unexpected token 'T'; expected ')'` error.

File: src/Std/Time/Notation.lean [hunk 74]
```diff
@@ -0,0 +1,267 @@
...
+
+/--
+Category of timezones like `Z`, `UTC`, `GMT` and `+HH:mm`.
+-/
+declare_syntax_cat zone
+
+/--
+Timezone in `+HHmm`, or `-HHmm` format.
+-/
+syntax (offset <|> "UTC" <|> "GMT" <|> "Z" <|> ("(" term ")")) : zone
```
Comment (tydeu) [inline src/Std/Time/Notation.lean:138]:
```suggestion
syntax (offset <|> &"UTC" <|> &"GMT" <|> &"Z" <|> ("(" term ")")) : zone
```

We probably do not want to make these date markers new keywords, so using no-reserved symbols (i.e., `&"..."`) here seems better.

File: src/Std/Time/Date/Unit/Year.lean [hunk 75]
```diff
@@ -0,0 +1,92 @@
...
+
+/--
+Converts the `Year` offset to a `Month` offset (i.e., multiplies by 12).
+-/
+@[inline]
+def toMonths (val : Offset) : Month.Offset :=
+  val.mul 12
+
+/--
+Determines if a year is a leap year in the proleptic gregorian calendar.
```
Comment (TwoFX) [inline src/Std/Time/Date/Unit/Year.lean:73]:
```suggestion
Determines if a year is a leap year in the proleptic Gregorian calendar.
```

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 76]
```diff
@@ -0,0 +1,321 @@
...
+
+/--
+Subtract `Nanosecond.Offset` from a `ZonedDateTime`, adjusting the date if necessary.
+-/
+@[inline]
+def subNanoseconds (dt : ZonedDateTime) (nanoseconds : Nanosecond.Offset) : ZonedDateTime :=
+  Sigma.mk dt.fst (dt.snd.subNanoseconds nanoseconds)
+
+/--
+Determines the era of the given `PlainDate` based on its year.
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:262]:
```suggestion
Determines the era of the given `ZonedDateTime` based on its year.
```
there are various other instances of the wrong type in docstrings, please check.

File: src/runtime/io.cpp [hunk 77]
```diff
@@ -521,6 +521,60 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("")));
+    }
+#endif
+
+    int offset_hour = tm_info.tm_gmtoff / 3600;
+    int offset_seconds = tm_info.tm_gmtoff;
+
+    lean_object *lean_offset = lean_alloc_ctor(0, 2, 0);
+    lean_ctor_set(lean_offset, 0, lean_int_to_int(static_cast<int>(offset_hour)));
+    lean_ctor_set(lean_offset, 1, lean_int_to_int(static_cast<int>(offset_seconds)));
```
Comment (TwoFX) [inline src/runtime/io.cpp:568]: `static_cast`ing from `int` to `int` seems to be a bit much. Or did you want to declare `offset_hour` and `offset_seconds` as `long int`?

File: src/Std/Time/Zoned/DateTime.lean [hunk 78]
```diff
@@ -0,0 +1,350 @@
...
+  ofTimestamp date.timestamp tz₁
+
+/--
+Creates a new `DateTime` out of a `PlainDateTime`. It assumes that the `PlainDateTime` is relative
+to UTC. If you're using hte PlainDateTime
+-/
+@[inline]
+def ofPlainDateTimeAssumingUTC (date : PlainDateTime) (tz : TimeZone) : DateTime tz :=
+  let tm := Timestamp.ofPlainDateTime date
+  DateTime.mk tm (Thunk.mk <| λ_ => date.addSeconds tz.toSeconds)
```
Comment (TwoFX) [inline src/Std/Time/Zoned/DateTime.lean:68]:
```suggestion
  DateTime.mk tm (Thunk.mk fun _ => date.addSeconds tz.toSeconds)
```
and similar elsewhere

File: src/Std/Time/Zoned/DateTime.lean [hunk 79]
```diff
@@ -0,0 +1,350 @@
...
+
+/--
+Creates a new `DateTime` out of a `Timestamp` that is in a `TimeZone`.
+-/
+@[inline]
+def ofTimestamp (tm : Timestamp) (tz : TimeZone) : DateTime tz :=
+  DateTime.mk tm (Thunk.mk <| λ_ => (tm.addSeconds tz.toSeconds).toPlainDateTime)
+
+/--
+Creates a new zone aware `Timestamp` out of a `DateTime`.
```
Comment (TwoFX) [inline src/Std/Time/Zoned/DateTime.lean:48]: What does this mean?

File: src/Std/Time/Zoned/DateTime.lean [hunk 80]
```diff
@@ -0,0 +1,350 @@
...
+  /--
+  `Timestamp` represents the exact moment in time. It's a UTC related `Timestamp`.
+  -/
+  timestamp : Timestamp
+
+  /--
+  `Date` is a `Thunk` containing the `PlainDateTime` that represents the local date and time, it's
+  used for accessing data like `day` and `month` without having to recompute the data everytime.
+  -/
+  date : Thunk PlainDateTime
```
Comment (TwoFX) [inline src/Std/Time/Zoned/DateTime.lean:30]: I wonder if this would be even better as
```suggestion
  date : Thunk { plain : PlainDateTime // plain = (timestamp.addSeconds tz.toSeconds).toPlainDateTime }
```
with a view towards proofs later.

File: src/Std/Time/Date/PlainDate.lean [hunk 81]
```diff
@@ -0,0 +1,315 @@
...
+      simp [←Int.sub_sub] at sub
+      let roll := day.addBounds (max₂.neg) |>.truncateBottom (Int.add_le_of_le_sub_left sub)
+      let day : Day.Ordinal := roll.expandTop (by decide)
+      let h₂ : roll.val ≤ 27 := Int.le_trans roll.property.right (by decide)
+      let month := month.truncateTop (Int.not_lt.mp h₁) |>.addTop 1 (by decide)
+      refine ⟨year, month, day, ?_⟩
+      exact Int.le_of_lt (Int.le_trans (Int.add_le_add_right h₂ 1) (Month.Ordinal.all_greater_than_27 year.isLeap month))
+  else
+    let h := Int.not_lt.mp h
+    exact ⟨year, month, day, h⟩
```
Comment (TwoFX) [inline src/Std/Time/Date/PlainDate.lean:82]: Have you considered implementing this as
```suggestion
def rollOver (year : Year.Offset) (month : Month.Ordinal) (day : Day.Ordinal) : PlainDate :=
  PlainDate.mk year month 1 sorry |>.addDays (day.toOffset - 1)
```

File: src/Std/Time/Date/PlainDate.lean [hunk 82]
```diff
@@ -0,0 +1,315 @@
...
+Subtracts `Month.Offset` from a `PlainDate`, it clips the day to the last valid day of that month.
+-/
+@[inline]
+def subMonthsClip (date : PlainDate) (months : Month.Offset) : PlainDate :=
+  addMonthsClip date (-months)
+
+/--
+Adds a given number of months to a `PlainDate`, rolling over any excess days into the following month.
+-/
+def addMonthsRollOver (date : PlainDate) (months : Month.Offset) : PlainDate :=
```
Comment (TwoFX) [inline src/Std/Time/Date/PlainDate.lean:237]: Should this not use `rollOver` somewhere?

File: src/Std/Time/Zoned/Database/TZdb.lean [hunk 83]
```diff
@@ -0,0 +1,88 @@
...
+/--
+Represents a Time Zone Database (TZdb) configuration with paths to local and general timezone data.
+-/
+structure TZdb where
+
+  /--
+  The path to the local timezone file. This is typically a symlink to a file within the timezone
+  database that corresponds to the current local time zone.
+  -/
+  localPath : System.FilePath := "/etc/PlainTime"
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/TZdb.lean:27]: Never do global search-and-replace on 8000 lines of code ;)

File: src/Std/Time/Zoned/ZoneRules.lean [hunk 84]
```diff
@@ -0,0 +1,205 @@
...
+
+/--
+Represents the rules for a time zone, abstracting away binary data and focusing on key transitions and types.
+-/
+structure ZoneRules where
+
+  /--
+  The array of local time types for the time zone.
+  -/
+  PlainTimes : Array PlainTimeType
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZoneRules.lean:133]: Another search-and-replace error

File: src/Std/Time/Zoned/Database/Basic.lean [hunk 85]
```diff
@@ -0,0 +1,112 @@
...
+
+  /--
+  Loads a `ZoneRules` by its id.
+  -/
+  load : α → String → IO TimeZone.ZoneRules
+
+  /--
+  Loads a `ZoneRules` that is set by the local computer.
+  -/
+  localRules : α → IO TimeZone.ZoneRules
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/Basic.lean:28]:
```lean
def main (_ : List String) : IO Unit := do
  let db := Database.TZdb.default
  let rules ← Database.localRules db
  println! "{repr rules}"
```
Here I get an empty array of leap seconds -- is that correct? Same for `Database.load db "Europe/Berlin"`.

Comment (algebraic-dev) [reply src/Std/Time/Zoned/Database/Basic.lean:28]: It's usually empty for some reason :S I tried with https://crates.io/crates/tzif/0.2.3 and it's empty too. But I think that leap seconds are in another file that I just forgot to parse, I'm going to add it.

File: src/Std/Time.lean (hunk 21 above)
Comment (algebraic-dev) [reply src/Std/Time.lean]: @eric-wieser The Std team decided to follow the format you suggested :)

**Review by TwoFX — COMMENTED** [review]
I have been reading up on leap seconds a bit more and I am now no longer convinced that it is a good idea to handle leap seconds in our library at all.

It appears to me that currently the leap second handling in the library allows converting between what I'll call "Unix Timestamps" and "UTC Timestamps" (perhaps "TAI Timestamp" would be more accurate, I'm not sure). The former is the number of "seconds" since UNIX epoch pretending that every day has exactly 86400 seconds and the latter is the number of SI seconds that have elapsed since UNIX epoch. The former corresponds to the std::chrono `sys_time` and the latter corresponds to `utc_time`.

Due to the way Unix timestamps work (see [Wikipedia](https://en.wikipedia.org/wiki/Unix_time#Leap_seconds)), if I just take the current time according to `sys_time` (as you do in `Timestamp.now`) and naively add it to 1970-01-01 00:00:00, then I will get the correct time. 

It doesn't appear to me to be the case that having to handle UTC timestamps is something that comes up in practice.

A theoretical advantage of having the leap second information around would be to correctly calculate the number of (SI) seconds between two wall-clock readings in a given location, but the current API doesn't make this easy and furthermore, neither `java.time` nor `std::chrono` nor the Rust `chrono` crate can do this, so it doesn't seem particularly important.

In summary, my suggestion would be to
* remove leap seconds from `ZoneRules`
* drop all of the conversion functions that use this data
* probably (?) keep the possibility to represent a leap second in `PlainTime` (though I have to admit that [my previous comment here](https://github.com/leanprover/lean4/pull/4904#discussion_r1713365943) might have been misguided - it's not clear to me now that being dependent here is particularly helpful. Maybe it would be more helpful if `PlainTime`, `PlainDateTime` and `ZonedDateTime` were also dependent, but that seems quite excessive), but be very particular about how leap seconds are handled in the formatting and the arithmetic. After writing this comment I noticed that what I'm suggesting is quite close to [this discussion](https://github.com/BurntSushi/jiff/issues/7#issuecomment-2054145531).

What do you think about this suggestion? If we do keep the "UTC timestamps" around, then I would strongly suggest having them be a different type from `Timestamp`, which I would suggest should always refer to Unix time.

File: src/Std/Time/Zoned/DateTime.lean [hunk 86]
```diff
@@ -0,0 +1,350 @@
...
+/--
+Changes the `TimeZone` to a new one.
+-/
+@[inline]
+def convertTimeZone (date : DateTime tz) (tz₁ : TimeZone) : DateTime tz₁ :=
+  ofTimestamp date.timestamp tz₁
+
+/--
+Creates a new `DateTime` out of a `PlainDateTime`. It assumes that the `PlainDateTime` is relative
+to UTC. If you're using hte PlainDateTime
```
Comment (TwoFX) [inline src/Std/Time/Zoned/DateTime.lean:63]: This docstring seems to be incomplete.

File: src/Std/Time/Zoned/DateTime.lean [hunk 87]
```diff
@@ -0,0 +1,350 @@
...
+-/
+@[inline]
+def ofPlainDateTimeAssumingUTC (date : PlainDateTime) (tz : TimeZone) : DateTime tz :=
+  let tm := Timestamp.ofPlainDateTime date
+  DateTime.mk tm (Thunk.mk fun _ => date.addSeconds tz.toSeconds)
+
+/--
+Creates a new `DateTime` out of a `PlainDateTime`. It assumes that the `PlainDateTime` it's relative
+to the
```
Comment (TwoFX) [inline src/Std/Time/Zoned/DateTime.lean:72]: This docstring seems to be incomplete.

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 88]
```diff
@@ -0,0 +1,321 @@
...
+
+/--
+Creates a new `ZonedDateTime` out of a `Timestamp`
+-/
+@[inline]
+def ofZoneRules (tm : Timestamp) (rules : TimeZone.ZoneRules) : Option ZonedDateTime := do
+  let transition ← rules.findTransitionForTimestamp tm
+  let tm := rules.applyLeapSeconds tm
+  return ofTimestamp tm transition.localTimeType.getTimeZone
+
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:55]: There seems to be an important function missing here, namely one that takes a `PlainDateTime` and a `TimeZone.ZoneRules` and returns an `Option ZonedDateTime` representing the time assuming the `PlainDateTime` was local for the zone rules.

**Comment by algebraic-dev** [comment]
I agree that handling UTC timestamps may not be necessary. However, I think that it is important to keep the support for leap seconds just to try keep the support for ISO 8601 compliant dates. In the future, If someone requests (that will not be the case I guess given that a lot of libraries don't implement something like that), I think that we can consider deriving a specialized type from the Timestamp type to address these problems.

**Comment by TwoFX** [comment]
> However, I think that it is important to keep the support for leap seconds just to try keep the support for ISO 8601 compliant dates.

If I'm understanding you correctly, this is compatible with my request above, i.e., not reading the leap second information from the time zone database but keeping leap second representation in `PlainTime`, right?

File: src/Std/Time/Date/Unit/Month.lean [hunk 89]
```diff
@@ -0,0 +1,262 @@
...
+  if month.val = 2 then
+    if leap then 29 else 28
+  else by
+    let ⟨months, p⟩ := monthSizesNonLeap
+    let r : Fin 12 := (month.sub 1).toFin (by decide) (by decide)
+    rw [← p] at r
+    exact months.get r
+
+theorem all_greater_than_27 (leap : Bool) (i : Month.Ordinal) : daysWithoutProof leap i > 27 := by
+  simp [daysWithoutProof, monthSizesNonLeap, Bounded.LE.sub, Bounded.LE.add, Bounded.LE.toFin]
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Date/Unit/Month.lean:199]: non-terminal `simp` invocations means that it needs to be on each branch?

File: src/Std/Time/Duration.lean [hunk 90]
```diff
@@ -0,0 +1,290 @@
...
+import Std.Time.Time
+
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+Represents a point in time relative to the UNIX Epoch, with nanoseconds precision.
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:17]: This docstring seems to be incorrect.

File: src/Std/Time.lean [hunk 91]
```diff
@@ -0,0 +1,173 @@
...
+  - `Z`: Like `ZZZZZ`, but with "Z" for UTC
+  - `z`: Timezone name (e.g., Brasilia Standard Time)
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+The `.sssssssss` can be ommited in most cases.
+
+- **`date% YYYY-MM-DD`**: Defines a date in the `YYYY-MM-DD` format.
+- **`date% HH:mm:ss,sssssssss`**: Defines a time in the `HH:mm:ss:sssssssss` format, including fractional seconds.
```
Comment (TwoFX) [inline src/Std/Time.lean:166]: It looks like this doesn't exist? There is a very similar entry starting with `time%` below, and that seems to work in my tests.

File: src/Std/Time/DateTime/Timestamp.lean [hunk 92]
```diff
@@ -0,0 +1,238 @@
...
+  ⟨t.val + d⟩
+
+/--
+Subtracts a `Week.Offset` from a `Timestamp`
+-/
+@[inline]
+def subWeeks (t : Timestamp) (d : Week.Offset) : Timestamp :=
+  ⟨t.val - d⟩
+
+instance : HAdd Timestamp Day.Offset Timestamp where
```
Comment (TwoFX) [inline src/Std/Time/DateTime/Timestamp.lean:199]: Shouldn't there be a `HAdd Timestamp Duration Timestamp`?

File: src/Std/Time/Duration.lean [hunk 93]
```diff
@@ -0,0 +1,290 @@
...
+
+/--
+Subtracts a `Week.Offset` from a `Duration`
+-/
+@[inline]
+def subWeeks (t : Duration) (w : Week.Offset) : Duration :=
+  let seconds := w.mul 604800
+  t.subSeconds seconds
+
+instance : HAdd Duration Day.Offset Duration where
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:246]: Shouldn't there be a `HMul Int Duration Duration`?

File: src/Std/Time/Time/PlainTime.lean [hunk 94]
```diff
@@ -0,0 +1,244 @@
...
+  let total := time.toNanoseconds + nanosToAdd
+  ofNanoseconds total
+
+/--
+Subtracts nanoseconds from a `PlainTime`.
+-/
+def subNanoseconds (time : PlainTime) (nanosToSub : Nanosecond.Offset) : PlainTime :=
+  addNanoseconds time (-nanosToSub)
+
+instance : HAdd PlainTime Nanosecond.Offset PlainTime where
```
Comment (TwoFX) [inline src/Std/Time/Time/PlainTime.lean:218]: I think there should be `HAdd PlainTime Duration PlainTime`, and similar for `PlainDateTime`. Unsure about `PlainDate`.

File: src/Std/Time/Time/Unit/Second.lean [hunk 95]
```diff
@@ -0,0 +1,93 @@
...
+  · exact inst
+  · exact ⟨inst.ofNat.expandTop (by decide)⟩
+
+instance : OfNat (Ordinal true) 60 where
+  ofNat := Bounded.LE.mk (Int.ofNat 60) (by decide)
+
+/--
+`Offset` represents an offset in seconds. It is defined as an `Int`.
+-/
+def Offset : Type := UnitVal 1
```
Comment (TwoFX) [inline src/Std/Time/Time/Unit/Second.lean:42]: I think it would be cool to make it slightly easier to move between the various `Offset` types and `Duration`.

Right now, to declare a duration of 4 minutes and 4 seconds, I have to do something like
`let duration : Duration := .ofSeconds ((4 : Minute.Offset).toSeconds + (14 : Second.Offset))`. Of course I love the C++ literals, where you can just write `auto duration = 4min + 14s;`, but I think being able to write `let duration : Duration := (4 : Minute.Offset) + (14 : Second.Offset)` using a coercion `Minutes.Offset -> Seconds.Offset` and `Seconds.Offset -> Duration` would already be a significant improvement.

Comment (algebraic-dev) [reply src/Std/Time/Time/Unit/Second.lean:54]: What do you think about a macro like `duration(1d 1m 2s)`? I'm going to add some coercions but I think that we could have something like this macro.

Comment (TwoFX) [reply src/Std/Time/Time/Unit/Second.lean:54]: I like this macro (potentially using the ISO notation for durations), but I would suggest to address this in a future PR so that that the current PR doesn't grow even more.

File: src/Std/Time/Date/Unit/Day.lean [hunk 96]
```diff
@@ -0,0 +1,251 @@
...
+  if hour ≥ 20 ∨ hour ≤ 4 then
+    .night
+  else if hour ≥ 17 then
+    .evening
+  else if hour ≥ 12 then
+    .afternoon
+  else
+    .morning
+
+end Period
```
Comment (eric-wieser) [inline src/Std/Time/Date/Unit/Day.lean:89]: This seems very subjective (both to individuals and to different cultures) to me; does it really belong in the standard library?

**Review by TwoFX — COMMENTED** [review]
Here is a pass over the first few files, more will follow.

File: src/Std/Time.lean [hunk 97]
```diff
@@ -0,0 +1,209 @@
...
+  - `Z`: Displays the hour and minute offset without a colon (e.g., "+0800").
+  - `ZZ`: Displays "GMT" followed by the time offset (e.g., "GMT+08:00" or Z).
+  - `ZZZ`: Displays the full hour, minute, and second offset with a colon (e.g., "+08:30:45" or Z).
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+The `.sssssssss` can be ommited in most cases.
+
+- **`date(yyyy-MM-dd)`**: Defines a date in the `YYYY-MM-DD` format.
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time.lean:203]: No, I'm going to fix it.

File: src/Std/Time/Date/Unit/Day.lean (hunk 96 above)
Comment (algebraic-dev) [reply src/Std/Time/Date/Unit/Day.lean:89]: I'm going to remove it.

File: src/runtime/io.cpp [hunk 98]
```diff
@@ -521,6 +524,194 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+    if (tm_ptr == NULL) {
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("")));
+    }
+    
+    int offset_hour = tm_info.tm_gmtoff / 3600;
+    int offset_seconds = tm_info.tm_gmtoff;
+    int is_dst = tm_info.tm_isdst;
+    char dst_name[] = "Unknown";
+    char display_name_str[32] = "Unknown";
+#endif
```
Comment (TwoFX) [inline src/runtime/io.cpp:701]: Why implement this on non-Windows platforms? It looks like you only need this on Windows? But then why does the name not include `windows`?

File: src/runtime/io.cpp [hunk 99]
```diff
@@ -521,6 +524,194 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+
+    int32_t dst_offset = ucal_get(cal, UCAL_DST_OFFSET, &status);
+
+    zone_offset += dst_offset;
+    
+    if (U_FAILURE(status)) {
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("failed to get dst_offset")));
+    }
+
+    int offset_hour = zone_offset / 3600000;
```
Comment (TwoFX) [inline src/runtime/io.cpp:601]: Looks like you're leaking the calendar object here. I was able to reproduce the leak using
```lean
import Std.Time

open Std.Time

def main (_ : List String) : IO Unit := do
  for _ in [0:100000000] do
    discard Database.defaultGetCurrentTimeZone
```
(though that calls the other function below I think). Running this using `lean --run`, I can see a steady memory increase in the Windows task manager.

Also, the ICU examples at https://unicode-org.github.io/icu/userguide/datetime/calendar/examples.html don't close the calendar in case of an error. Could you double-check whether calendars should be closed on error?

File: src/runtime/io.cpp [hunk 100]
```diff
@@ -521,6 +524,194 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+        ucal_close(cal);
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("failed to get zone_offset")));
+    }
+
+    int32_t dst_offset = ucal_get(cal, UCAL_DST_OFFSET, &status);
+
+    zone_offset += dst_offset;
+    
+    if (U_FAILURE(status)) {
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("failed to get dst_offset")));
```
Comment (TwoFX) [inline src/runtime/io.cpp:598]: This is the one error case where you don't close the calendar. Why?

**Review by TwoFX — COMMENTED** [review]
I'll try to get through the rest of the files tomorrow.

File: src/Std/Time/Date/Unit/Day.lean (hunk 96 above)
Comment (eric-wieser) [reply src/Std/Time/Date/Unit/Day.lean:89]: I'm surprised I can't even find a specification for that format in Java, besides the list you paste above!

File: src/Std/Time/DateTime/PlainDateTime.lean [hunk 101]
```diff
@@ -0,0 +1,467 @@
...
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+Represents a date and time with components for Year, Month, Day, Hour, Minute, Second, and Nanosecond.
+-/
+structure PlainDateTime where
```
Comment (TwoFX) [inline src/Std/Time/DateTime/PlainDateTime.lean:21]: I think it would be cool if there were functions like `PlainDate.atTime : PlainDate -> PlainTime -> PlainDateTime` and also `PlainDateTime.withTime : PlainDateTime -> PlainTime -> PlainDateTime`. Of course, these are merely wrapper around the constructor/the `with` syntax, but I've been wishing these functions were there while playing with the library.

File: src/Std/Time.lean [hunk 102]
```diff
@@ -0,0 +1,209 @@
...
+- `w`: Represents the week of the week-based year (e.g., "27").
+- `W`: Represents the week of the month (e.g., "4").
+- `E`: Represents the day of the week as text.
+  - `E`, `EE`, `EEE`: Displays the abbreviated day name (e.g., "Tue").
+  - `EEEE`: Displays the full day name (e.g., "Tuesday").
+  - `EEEEE`: Displays the narrow day name (e.g., "T" for Tuesday).
+- `e`: Represents the localized day of the week.
+  - `e`, `ee`: Displays the day of the week as a number, starting from 1 (Monday) to 7 (Sunday).
+  - `eee`, `eeee`, `eeeee`: Displays the localized day of the week as text (same format as `E`).
+- `F`: Represents the aligned week of the month (e.g., "3").
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time.lean:159]: `e` Is calculated as `monthDay / 7` and `F` is calculated as `(monthDay - weekday) / 7` (so it gets aligned to monday).

[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Time.lean:159]: I see. Could you add this explanation to the text?

File: src/Std/Time/DateTime/PlainDateTime.lean (hunk 101 above)
Comment (algebraic-dev) [reply src/Std/Time/DateTime/PlainDateTime.lean:21]: Added!

File: src/Std/Time.lean [hunk 103]
```diff
@@ -0,0 +1,209 @@
...
+  - `MMM`: Displays the abbreviated month name (e.g., "Jul").
+  - `MMMM`: Displays the full month name (e.g., "July").
+  - `MMMMM`: Displays the month in a narrow form (e.g., "J" for July).
+- `d`: Represents the day of the month.
+- `Q`: Represents the quarter of the year.
+  - `Q`, `QQ`: Displays the quarter as a number (e.g., "3", "03").
+  - `QQQ` (short): Displays the quarter as an abbreviated text (e.g., "Q3").
+  - `QQQQ` (full): Displays the full quarter text (e.g., "3rd quarter").
+  - `QQQQQ` (narrow): Displays the full quarter text (e.g., "3rd quarter").
+- `w`: Represents the week of the week-based year (e.g., "27").
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time.lean:150]: Well, I fixed it. I guess!

```lean
#eval do
  let t : ZonedDateTime := .ofPlainDateTime datetime("2018-12-31T12:00:00") (TimeZone.ZoneRules.ofTimeZone TimeZone.UTC)
  IO.println s!"{t.format "w"}"
```

File: src/Std/Time/Zoned/Database/Basic.lean [hunk 104]
```diff
@@ -0,0 +1,106 @@
...
+
+namespace Std
+namespace Time
+
+set_option linter.all true
+
+/--
+A timezone database from which we can read the `ZoneRules` of some area by it's id.
+-/
+class Database (α : Type) where
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Zoned/Database/Basic.lean:19]: Well, right now the `ZonedDateTime` type carries the `ZoneRules` the library does not makes this distinction between adding days and hours...

File: tests/lean/run/timeFormats.lean [hunk 105]
```diff
@@ -0,0 +1,785 @@
...
+info: "5 95 195"
+-/
+#guard_msgs in
+#eval zoned₄.format "D DD DDD"
+
+/--
+info: "7 07 Jul J"
+-/
+#guard_msgs in
+#eval zoned₄.format "M MM MMM MMMMM"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:312]: This test seems to be redundant with the test below.

File: tests/lean/run/timeFormats.lean [hunk 106]
```diff
@@ -0,0 +1,785 @@
...
+/--
+info: "7 07 Jul July J"
+-/
+#guard_msgs in
+#eval zoned₄.format "M MM MMM MMMM MMMMM"
+
+/--
+info: "4 14 0014 0014"
+-/#guard_msgs in
+#eval zoned₄.format "d dd dddd dddd"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:329]: This test seems to be redundant with test above.

File: tests/lean/run/timeFormats.lean [hunk 107]
```diff
@@ -0,0 +1,785 @@
...
+info: "3 03 3rd quarter 3"
+-/
+#guard_msgs in
+#eval zoned₄.format "Q QQ QQQQ QQQQQ"
+
+/--
+info: "8 28 028 0028"
+-/
+#guard_msgs in
+#eval zoned₄.format "w ww www wwww"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:341]: Java informs me that the correct answer here is in fact `29`.

File: tests/lean/run/timeFormats.lean [hunk 108]
```diff
@@ -0,0 +1,785 @@
...
+#eval zoned₄.format "h hh hhh hhhh hhhh"
+
+/--
+info: "1 11 011 0011 000011"
+-/
+#guard_msgs in
+#eval zoned₄.format "K KK KKK KKKK KKKKKK"
+
+/--
+info: "4 24 024 0024 000024"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:380]: Correct answer is `23`.

File: tests/lean/run/timeFormats.lean [hunk 109]
```diff
@@ -0,0 +1,785 @@
...
+
+/--
+info: "2 12 012 0012 00012"
+-/
+#guard_msgs in
+#eval zoned₄.format "s ss sss ssss sssss"
+
+
+/--
+info: "9 79 679 4679 54679"
```
[the remark this answers is not in the document]
Comment (TwoFX) [reply tests/lean/run/timeFormats.lean:405]: So observe that here we have a difference between the fractional part `S`, which should be formatted to the given number of digits (but truncating on the correct side), and the numbers `A`, `n`, `N`, which should always be output with full precision, potentially padded with zeros.

File: tests/lean/run/timeFormats.lean [hunk 110]
```diff
@@ -0,0 +1,785 @@
...
+info: "9 79 679 4679 324354679"
+-/
+#guard_msgs in
+#eval zoned₄.format "N NN NNN NNNN NNNNNNNNN"
+
+/--
+info: "Unknown"
+-/
+#guard_msgs in
+#eval zoned₄.format "V"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:437]: So according to your documentation (and Java agrees), `V` is invalid, it should be `VV` (which your parser rejects), and I think `Unknown` is not the right answer here; it should be `+09:00`.

File: tests/lean/run/timeFormats.lean [hunk 111]
```diff
@@ -0,0 +1,785 @@
...
+
+/--
+info: "Unknown Unknown Unknown Unknown"
+-/
+#guard_msgs in
+#eval zoned₄.format "z zz zzzz zzzz"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:443]: I think the right answer here is `+09:00 +09:00 +09:00 +09:00`.

File: tests/lean/run/timeFormats.lean [hunk 112]
```diff
@@ -0,0 +1,785 @@
...
+
+/--
+info: "GMT+9 GMT+09:00"
+-/
+#guard_msgs in
+#eval zoned₄.format "O OOOO"
+
+/--
+info: "+09 +0900 +09:00 +090000 +09:00:00"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:452]: ISO 8601 4.3.13 says that the correct answer is `+09 +0900 +09:00 +0900 +09:00`, and Java agrees.

File: tests/lean/run/timeFormats.lean [hunk 113]
```diff
@@ -0,0 +1,785 @@
...
+-/
+#guard_msgs in
+#eval zoned₄.format "X XX XXX XXXX XXXXX"
+
+/--
+info: "+09 +0900 +09:00 +0900 +09:00:00"
+-/
+#guard_msgs in
+#eval zoned₄.format "x xx xxx xxxx xxxxx"
```
Comment (TwoFX) [inline tests/lean/run/timeFormats.lean:461]: Please add a test for the difference between `X` and `x`.

**Review by TwoFX — COMMENTED** [review]
There are failing tests, have you investigated those?

File: src/Std/Time/Zoned/Database/Leap.lean [hunk 114]
```diff
@@ -0,0 +1,110 @@
+/-
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/Leap.lean:1]: What's the status of this file? Can it be deleted?

File: src/Std/Time.lean [hunk 115]
```diff
@@ -0,0 +1,219 @@
...
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+The `.sssssssss` can be ommited in most cases.
+
+- **`date("yyyy-MM-dd")`**: Defines a date in the `yyyy-MM-DD` format.
+- **`time("HH:mm:ss.sssssssss")`**: Defines a time in the `HH:mm:ss.sssssssss` format, including fractional seconds.
+- **`datetime("yyy-MM-ddTHH:mm:ss.sssssssss")`**: Defines a datetime in the `YYYY-MM-DD:HH:mm:ss.sssssssss` format.
+- **`offset("+HH:mm")`**: Defines a timezone offset in the format `+HH:mm`.
+- **`timezone("NAME/ID ZZZ")`**: Defines a timezone with a name and an offset.
+- **`datespec("format")`**: Defines a date specification format at compile time using the provided format string.
```
Comment (TwoFX) [inline src/Std/Time.lean:218]: The `zoned` macro is missing here.

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 116]
```diff
@@ -0,0 +1,451 @@
...
+  timezone : TimeZone
+
+instance : Inhabited ZonedDateTime where
+  default := ⟨Thunk.mk Inhabited.default, Inhabited.default, Inhabited.default, Inhabited.default⟩
+
+namespace ZonedDateTime
+open DateTime
+
+/--
+Creates a new `ZonedDateTime` out of a `Timestamp` and a `TimeZone`.
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:48]: This docstring is outdated.

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 117]
```diff
@@ -0,0 +1,451 @@
...
+-/
+@[inline]
+def ofTimestamp (tm : Timestamp) (rules : TimeZone.ZoneRules) : ZonedDateTime :=
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:51]: There should be a variant of this function that takes a `TimeZone` instead of a `ZoneRules`, that just calls `ZoneRules.ofTimeZone`. Similar for `ofPlainDateTime` below.

There should also be a function that "fixes" a `ZonedDateTime` at the current time zone and forgets all other zone rules, to "opt out" of DST-aware datetime arithmetic. The Java equivalent is called [withFixedOffsetZone](https://docs.oracle.com/en/java/javase/21/docs/api/java.base/java/time/ZonedDateTime.html#withFixedOffsetZone()).

File: src/Std/Time.lean [hunk 118]
```diff
@@ -0,0 +1,219 @@
...
+import Std.Time.Duration
+import Std.Time.Zoned.Database
+
+namespace Std
+namespace Time
+
+/-!
+# Time
+
+The Lean API for date, time, and duration functionalities.
```
Comment (TwoFX) [inline src/Std/Time.lean:22]: In this overview there should be a detailed explanation about DST-aware datetime arithmetic, how `ZonedDateTime` carries around a `ZoneRules`, how to obtain a `ZoneRules`, and how to opt-out of DST-aware datetime arithmetic by working with `TimeZone` instead.

File: tests/lean/run/timeFormats.lean (hunk 107 above)
Comment (algebraic-dev) [reply tests/lean/run/timeFormats.lean:330]: Java starts a week on Sunday and the library starts it on Monday. I'm going to add documentation for it.

File: src/Std/Time.lean (hunk 118 above)
Comment (algebraic-dev) [reply src/Std/Time.lean:22]: I added the explanation in the `ZonedDateTime` part.

File: src/Std/Time/Zoned/ZonedDateTime.lean (hunk 117 above)
Comment (algebraic-dev) [reply src/Std/Time/Zoned/ZonedDateTime.lean:51]: I added the ` ofTimestampWithZone` function.

File: src/Std/Time/Duration.lean [hunk 119]
```diff
@@ -0,0 +1,339 @@
...
+import Std.Time.Time
+
+namespace Std
+namespace Time
+open Internal
+
+set_option linter.all true
+
+/--
+Represents a point in time relative to the UNIX Epoch, with nanoseconds precision.
```
Comment (TwoFX) [inline src/Std/Time/Duration.lean:17]: I think this docstring is not correct. Also, couldn't you just define `Duration` as `Nanosecond.Offset`?

File: src/Std/Time.lean [hunk 120]
```diff
@@ -0,0 +1,209 @@
...
+  - `ZZZ`: Displays the full hour, minute, and second offset with a colon (e.g., "+08:30:45" or Z).
+
+# Macros
+
+In order to help the user build dates easily, there are a lot of macros available for creating dates.
+The `.sssssssss` can be ommited in most cases.
+
+- **`date(yyyy-MM-dd)`**: Defines a date in the `YYYY-MM-DD` format.
+- **`time(HH:mm:ss.sssssssss)`**: Defines a time in the `HH:mm:ss:sssssssss` format, including fractional seconds.
+- **`datetime("yyy-MM-ddTHH:mm:ss.sssssssss")`**: Defines a datetime in the `YYYY-MM-DD:HH:mm:ss:sssssssss` format.
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time.lean]: Now the `zoned` receives timezones in three formats.

File: src/Std/Time/Duration.lean (hunk 119 above)
Comment (TwoFX) [reply src/Std/Time/Duration.lean:17]: Okay, let's leave it like this.

File: src/Std/Time/Zoned/Database.lean [hunk 121]
```diff
@@ -0,0 +1,34 @@
...
+namespace Time
+namespace Database
+open TimeZone.ZoneRules
+
+set_option linter.all true
+
+/--
+Gets the time zone for a given location and timestamp, handling Windows and non-Windows platforms.
+-/
+def defaultGetZoneRulesAt : String → IO TimeZone.ZoneRules :=
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Zoned/Database.lean]: Well it was a problem in a lean function that I created, fixed.

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 122]
```diff
@@ -0,0 +1,515 @@
...
+  let tz := rules.timezoneAt tm
+  ZonedDateTime.mk (Thunk.mk fun _ => tm.toPlainDateTimeAssumingUTC.addSeconds tz.toSeconds) tm rules tz
+
+/--
+Creates a new `ZonedDateTime` out of a `PlainDateTime` and a `ZoneRules`.
+-/
+@[inline]
+def ofPlainDateTime (pdt : PlainDateTime) (zr : TimeZone.ZoneRules) : ZonedDateTime :=
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:59]:
```lean
import Std.Time

open Std.Time

def main : IO Unit := do
  let zr ← Database.defaultGetZoneRules "America/Sao_Paulo"
  let pdt := datetime("2019-02-17T00:00:01")
  let zdt := ZonedDateTime.ofPlainDateTime pdt zr
  println! "{zdt}"
```
This prints `2019-02-17T00:00:01.000000000-02:00`, but the correct answer is `2019-02-17T00:00:01.000000000-03:00` (Sao Paulo left DST, for the final time, one second earlier).

I knew that this function must be wrong because it called `toTimestampAssumingUTC` on a `PlainDateTime` that is not in UTC. This is what I was alluding to in [this comment](https://github.com/leanprover/lean4/pull/4904#discussion_r1803217660). Treating a `Timestamp` as a point on the timeline and never having a `Timestamp` that represents something without meaning (like `pdt.toTimestampAssumingUTC` if `pdt` is not in UTC) is a good way to avoid bugs like this.

File: src/Std/Time/DateTime/PlainDateTime.lean [hunk 123]
```diff
@@ -0,0 +1,587 @@
...
+
+/--
+Converts a `PlainDateTime` to a `Timestamp`
+-/
+def toTimestampAssumingUTC (dt : PlainDateTime) : Timestamp :=
+  let days := dt.date.toDaysSinceUNIXEpoch
+  let nanos := days.toSeconds + dt.time.toSeconds |>.mul 1000000000
+  let nanos := nanos.val + dt.time.nanosecond.val
+  Timestamp.ofNanosecondsSinceUnixEpoch (Nanosecond.Offset.ofInt nanos)
+
```
Comment (TwoFX) [inline src/Std/Time/DateTime/PlainDateTime.lean:45]: I think that it would be good to have `toTimestamp : PlainDateTime -> ZoneRules -> Timestamp` and `toTimestampWithZone : PlainDateTime -> TimeZone` that basically convert into a `ZonedDateTime` and to a `Timestamp`. The same is true for `PlainDate`.

File: src/Std/Time/DateTime/PlainDateTime.lean [hunk 124]
```diff
@@ -0,0 +1,587 @@
...
+/--
+Converts a UNIX `Timestamp` to a `PlainDateTime`.
```
Comment (TwoFX) [inline src/Std/Time/DateTime/PlainDateTime.lean:47]:
```suggestion
Converts a `Timestamp` to a `PlainDateTime`.
```

File: src/runtime/io.cpp [hunk 125]
```diff
@@ -630,6 +631,165 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+    }
+
+    UCalendar *cal = ucal_open(tzID, -1, NULL, UCAL_GREGORIAN, &status);
+
+    if (U_FAILURE(status)) {
+        ucal_close(cal);
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("failed to open calendar")));
+    }
+
+    int64_t timestamp_secs = lean_scalar_to_int64(tm_obj);
```
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/runtime/io.cpp:671]: `Int64` is merged now, so if you merge `master` you should have access to it.

File: src/runtime/io.cpp [hunk 126]
```diff
@@ -630,6 +631,165 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+    }
+
+    int64_t tm = (int64_t)(nextTransition / 1000.0);
+    ucal_close(cal);
+
+    int offset_seconds = zone_offset / 1000;
+
+    lean_object *lean_tz = lean_alloc_ctor(0, 3, 1);
+    lean_ctor_set(lean_tz, 0, lean_int_to_int(offset_seconds));
+    lean_ctor_set(lean_tz, 1, lean_mk_ascii_string_unchecked(dst_name));
```
Comment (TwoFX) [inline src/runtime/io.cpp:740]: Looks like you're hoping that a time zone name will never be non-ascii. It might be better to play it safe and use `lean_mk_string_from_bytes_unchecked` here.

File: src/runtime/io.cpp [hunk 127]
```diff
@@ -630,6 +631,165 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+    long long nano = timestamp % 1000000000;
+
+    lean_object *lean_ts = lean_alloc_ctor(0, 2, 0);
+    lean_ctor_set(lean_ts, 0, lean_int_to_int(static_cast<int>(secs)));
+    lean_ctor_set(lean_ts, 1, lean_int_to_int(static_cast<int>(nano)));
+
+    return lean_io_result_mk_ok(lean_ts);
+}
+
+/* Std.Time.Database.Windows.getNextTransition : @&String -> @&Int -> IO (Option (Int × TimeZone)) */
```
Comment (TwoFX) [inline src/runtime/io.cpp:651]: After adjusting your Lean functions to use `Int64` you should take a `uint64_t` as an argument in the C++ code and cast it to an `int64_t` for use.

File: src/Std/Time/Zoned/ZonedDateTime.lean (hunk 122 above)
Comment (algebraic-dev) [reply src/Std/Time/Zoned/ZonedDateTime.lean:59]: Fixed!

File: src/Std/Time/Date/PlainDate.lean [hunk 128]
```diff
@@ -0,0 +1,354 @@
...
+      offset.truncateTop (Int.le_sub_one_of_lt h) |>.addBounds (.exact 7)
+      |>.expandBottom (by decide)
+    else
+      offset.truncateBottom (Int.not_lt.mp h)
+      |>.expandTop (by decide)
+
+  date.addDays (Day.Offset.ofInt offset.toInt)
+
+/--
+Calculates the wekk of the year starting Monday for a given year.
```
Comment (TwoFX) [inline src/Std/Time/Date/PlainDate.lean:320]:
```suggestion
Calculates the week of the year starting Monday for a given year.
```

File: src/runtime/io.cpp [hunk 129]
```diff
@@ -630,6 +631,165 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+/* Std.Time.Database.Windows.getLocalTimeZoneIdentifierAt : @&Int64 → IO String */
+extern "C" LEAN_EXPORT obj_res lean_get_windows_local_timezone_id_at(uint64_t tm_obj, obj_arg /* w */) {
+#if defined(LEAN_WINDOWS)
+    UErrorCode status = U_ZERO_ERROR;
+    UCalendar* cal = ucal_open(NULL, -1, NULL, UCAL_GREGORIAN, &status);
+
+    if (U_FAILURE(status)) {
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("failed to open calendar")));
+    }
+0
```
Comment (TwoFX) [inline src/runtime/io.cpp:763]: Oops, this was a good reminder to put the `release-ci` label so that we actually try to compile the Windows code on CI.

File: src/Std/Time/Zoned/Database/Windows.lean [hunk 130]
```diff
@@ -0,0 +1,83 @@
...
+
+set_option linter.all true
+
+namespace Windows
+
+/--
+Fetches the next timezone transition for a given timezone identifier and timestamp.
+-/
+@[extern "lean_windows_get_next_transition"]
+opaque getNextTransition : @&String -> @&Int64 -> IO (Option (Int64 × TimeZone))
```
Comment (TwoFX) [inline src/Std/Time/Zoned/Database/Windows.lean:24]: `Int64` parameters shouldn't receive a borrow annotation. Also applies to the function below.

File: src/runtime/io.cpp [hunk 131]
```diff
@@ -630,6 +631,165 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+    int offset_seconds = zone_offset / 1000;
+
+    lean_object *lean_tz = lean_alloc_ctor(0, 3, 1);
+    lean_ctor_set(lean_tz, 0, lean_int_to_int(offset_seconds));
+    lean_ctor_set(lean_tz, 1, lean_mk_string_from_bytes_unchecked(dst_name));
+    lean_ctor_set(lean_tz, 2, lean_mk_string_from_bytes_unchecked(display_name_str));
+    lean_ctor_set_uint8(lean_tz, sizeof(void*)*3, is_dst);
+    
+    lean_object *lean_pair = lean_alloc_ctor(0, 2, 0);
+    lean_ctor_set(lean_pair, 0, lean_int64_to_int(tm));
```
Comment (TwoFX) [inline src/runtime/io.cpp:745]: Here you should cast back to `uint64_t` instead of calling the function.

**Comment by TwoFX** [comment]
I think the missing `DateTime` functions indicated in the Google sheet are still missing.

**Comment by TwoFX** [comment]
You removed the test that called `defaultGetLocalZoneRules`, but I think the failing test actually highlighted a real issue that I can reproduce when setting time zone on my computer to `Etc/UTC`: calling `defaultGetLocalZoneRules` completely fails, which sounds wrong to me. Instead it should return a `ZoneRules` where the `initialLocalTimeType` describes UTC and the `transitions` array is empty.

**Review by TwoFX — APPROVED** [review]
LGTM!

File: src/Std/Time/Notation/Spec.lean [hunk 132]
```diff
@@ -0,0 +1,113 @@
...
+import Std.Time.Format.Basic
+
+namespace Std
+namespace Time
+open Lean Parser Command Std
+
+private def convertText : Text → MacroM (TSyntax `term)
+  | .short => `(Std.Time.Text.short)
+  | .full => `(Std.Time.Text.full)
+  | .narrow => `(Std.Time.Text.narrow)
```
Comment (eric-wieser) [inline src/Std/Time/Notation/Spec.lean:20]: Should these be `Lean.Quote` instances?

File: src/Std/Time/Zoned/Offset.lean [hunk 133]
```diff
@@ -0,0 +1,75 @@
...
+Creates an `Offset` from a given number of hours and minutes.
+-/
+def ofHoursAndMinutes (n : Hour.Offset) (m : Minute.Offset) : Offset :=
+  mk (n.toSeconds + m.toSeconds)
+
+/--
+Creates an `Offset` from a given number of seconds.
+-/
+def ofSeconds (n : Second.Offset) : Offset :=
+  ⟨n⟩
```
Comment (eric-wieser) [inline src/Std/Time/Zoned/Offset.lean:70]: Instead of having `Offset.mk` and `Offset.ofSeconds` as two different things, you could rename the constructor of the `Offset` type.

File: src/Std/Time/Internal/UnitVal.lean [hunk 134]
```diff
@@ -0,0 +1,132 @@
...
+@[inline]
+def add (u1 : UnitVal α) (u2 : UnitVal α) : UnitVal α :=
+  ⟨u1.val + u2.val⟩
+
+/--
+Subtracts one `UnitVal` value from another of the same ratio.
+-/
+@[inline]
+def sub (u1 : UnitVal α) (u2 : UnitVal α) : UnitVal α :=
+  ⟨u1.val - u2.val⟩
```
Comment (eric-wieser) [inline src/Std/Time/Internal/UnitVal.lean:91]: Can these be deleted? It looks to me like you don't use them in the `Add`/`Sub` etc instances below.

Comment (algebraic-dev) [reply src/Std/Time/Internal/UnitVal.lean:91]: They're being used in other places, I'm going to add `HAdd` instances instead.

File: src/Std/Time/Notation/Spec.lean (hunk 132 above)
Comment (algebraic-dev) [reply src/Std/Time/Notation/Spec.lean:20]: I tried once but I saw that I would need a function called `Unhygienic.run` that I think that is inside `Lean`. AFAIK I cannot import lean things on std because it would lead to some dependency order problems.

File: src/Std/Time/Internal/UnitVal.lean [hunk 135]
```diff
@@ -0,0 +1,132 @@
...
+  inferInstanceAs (Decidable (x.val ≤ y.val))
+
+namespace UnitVal
+
+/--
+Creates a `UnitVal` from an `Int`.
+-/
+@[inline]
+def ofInt (value : Int) : UnitVal α :=
+  ⟨value⟩
```
[the remark this answers is not in the document]
Comment (algebraic-dev) [reply src/Std/Time/Internal/UnitVal.lean]: Merged :)

File: src/Std/Time/Zoned/Offset.lean (hunk 133 above)
Comment (algebraic-dev) [reply src/Std/Time/Zoned/Offset.lean]: Merged :)

File: src/Std/Time/Internal/UnitVal.lean [hunk 136]
```diff
@@ -113,9 +110,9 @@ instance : LE (UnitVal α) where le x y := x.val ≤ y.val
 
 instance : LT (UnitVal α) where lt x y := x.val < y.val
 
-instance : Add (UnitVal α) where add x y := ⟨x.val + y.val⟩
+instance : Add (UnitVal α) where add := UnitVal.add
 
-instance : Sub (UnitVal α) where sub x y := ⟨x.val - y.val⟩
+instance : Sub (UnitVal α) where sub := UnitVal.sub
 
 instance : Mul (UnitVal α) where mul x y := ⟨x.val * y.val⟩
```
Comment (eric-wieser) [inline src/Std/Time/Internal/UnitVal.lean:117]: This one should presumably use `.mul` too

Comment (eric-wieser) [reply src/Std/Time/Internal/UnitVal.lean:117]: Actually, this and the instance below are both very suspicious; this allows nonsense like `60s*60s = 3600s`. I think this should be an HMul instance

File: src/Std/Time/Notation.lean [hunk 137]
```diff
@@ -0,0 +1,246 @@
...
+private def convertPlainDate (d : Std.Time.PlainDate) : MacroM (TSyntax `term) := do
+ `(Std.Time.PlainDate.ofYearMonthDayClip $(← syntaxInt d.year) $(← syntaxBounded d.month.val) $(← syntaxBounded d.day.val))
+
+private def convertPlainTime (d : Std.Time.PlainTime) : MacroM (TSyntax `term) := do
+ `(Std.Time.PlainTime.mk $(← syntaxBounded d.hour.val) $(← syntaxBounded d.minute.val) ⟨true, $(← syntaxBounded d.second.snd.val)⟩ $(← syntaxBounded d.nanosecond.val))
+
+private def convertPlainDateTime (d : Std.Time.PlainDateTime) : MacroM (TSyntax `term) := do
+ `(Std.Time.PlainDateTime.mk $(← convertPlainDate d.date) $(← convertPlainTime d.time))
+
+private def convertZonedDateTime (d : Std.Time.ZonedDateTime) (identifier := false) : MacroM (TSyntax `term) := do
```
Comment (eric-wieser) [inline src/Std/Time/Notation.lean:134]: Thinking one more time about this, I think all this is maybe really `Lean.ToExpr` instead? Maybe @kmill has some thoughts here.

**Comment by TwoFX** [comment]
Hi @eric-wieser, thank you for taking the time to read through the PR. Our current priorities are to get the public API right and to get the PR merged. As far as I understand (please correct me if I'm wrong), your comments about `UnitVal` and the notation module don't affect prospective users of the date/time API, but concern implementation details. If you have comments about the public API, please leave them here, but I would prefer to handle feedback for implementation details in additional RFCs/PRs after this PR is merged.

**Comment by eric-wieser** [comment]
> your comments about [...] the notation module don't affect prospective users of the date/time API,

Agreed

>  your comments about `UnitVal`

I don't agree, the `Mul` instance is derived later on, so this provides users with a footgun that allows them to compute `1 hour * 1 hour = 1 hour` but `60 minutes * 60 minutes = 60 hours".

File: src/runtime/io.cpp [hunk 138]
```diff
@@ -630,6 +631,172 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+
+    std::chrono::system_clock::time_point now = std::chrono::system_clock::now();
+    long long timestamp = std::chrono::duration_cast<std::chrono::nanoseconds>(now.time_since_epoch()).count();
+
+    long long secs = timestamp / 1000000000;
+    long long nano = timestamp % 1000000000;
+
+    lean_object *lean_ts = lean_alloc_ctor(0, 2, 0);
+    lean_ctor_set(lean_ts, 0, lean_int_to_int(static_cast<int>(secs)));
+    lean_ctor_set(lean_ts, 1, lean_int_to_int(static_cast<int>(nano)));
```
Comment (eric-wieser) [inline src/runtime/io.cpp:646]: I think there is a 2038 bug hiding in the `static_cast` here; you need to avoid truncating the `long long` to `int`.

Comment (eric-wieser) [inline src/runtime/io.cpp:646]:
```suggestion
    lean_ctor_set(lean_ts, 0, lean_int64_to_int(secs));
    lean_ctor_set(lean_ts, 1, lean_int64_to_int(nano));
```

Comment (algebraic-dev) [reply src/runtime/io.cpp:646]: Thanks! :)

**Comment by TwoFX** [comment]
> I don't agree, the `Mul` instance for `Minutes.Offset` is derived later

Thanks, I had missed this. I agree that the `Offset` types should derive `Mul` or `Div`. We can add correct `HMul` and `HDiv` instances in a future PR.

File: src/runtime/io.cpp [hunk 139]
```diff
@@ -630,6 +631,172 @@ extern "C" LEAN_EXPORT obj_res lean_io_prim_handle_put_str(b_obj_arg h, b_obj_ar
...
+    int32_t tzIDLength = ucal_getTimeZoneDisplayName(cal, is_dst ? UCAL_DST : UCAL_STANDARD, "en_US", tzID, 32, &status);
+
+    if (U_FAILURE(status)) {
+        ucal_close(cal);
+        return lean_io_result_mk_error(lean_decode_io_error(EINVAL, mk_string("failed to timezone identifier")));
+    }
+
+    char dst_name[256];
+    int32_t dst_name_len;
+    u_strToUTF8(dst_name, sizeof(dst_name), &dst_name_len, tzID, tzIDLength, &status);
```
Comment (eric-wieser) [inline src/runtime/io.cpp:714]: You're missing a `U_FAILURE(status)` check here.

File: src/Std/Time/DateTime/PlainDateTime.lean [hunk 140]
```diff
@@ -70,11 +70,11 @@ def ofTimestampAssumingUTC (stamp : Timestamp) : PlainDateTime := Id.run do
       let h := rem.truncateBottom (Int.not_le.mp h)
       (h, rawDays)
 
-  let mut quadracentennialCycles := days / daysPer400Y;
-  let mut remDays := days.val % daysPer400Y.val;
+  let mut quadracentennialCycles := days.val / daysPer400Y;
+  let mut remDays := days.val % daysPer400Y;
```
Comment (eric-wieser) [inline src/Std/Time/DateTime/PlainDateTime.lean:74]: nit: Adding a `Mod` operation for `UnitVal` would be well-typed, and would clean this up a little.

File: src/runtime/io.cpp (hunk 139 above)
Comment (algebraic-dev) [reply src/runtime/io.cpp:714]: Fixed.
